2146-03-04 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2146-3-3**] 09:30 AM
   ABD
 PARACENTESIS - At [**2146-3-3**] 09:30 AM
   attempted
 INVASIVE VENTILATION - START [**2146-3-3**] 10:25 AM
 MULTI LUMEN - START [**2146-3-3**] 10:57 AM
 ARTERIAL LINE - START [**2146-3-3**] 04:12 PM
 PARACENTESIS - At [**2146-3-3**] 04:18 PM
   5L diagnostic paracenesis performed, Fluid consistent with SBP.
   Patient became hypotensive in the late afternoon with SBP in 80s.  She
   was given 500cc IVF bolus with no response.  3rd Albumin bag hung.
   1uPRBC also running but still remained with SBP in low 80s.
   Vasopressin started at 1.2 and increased to 2.4.  MAP's remained at
   60.  Levophed then started at low dose and patient has remained with
   MAP of 65.
   HCT at 8pm came back at 22 which was down from 24 despite 4uPRBCs.  DIC
   and Hemolysis labs sent.  1uPRBC was ordered and hung.  STAT CT scan of
   abdomen was ordered for evaluation of possible hemoperitoneum s/p
   paracentesis.  CT scan was negative for intraperitoneal bleed.  Repeat
   HCT overnight increased to 28.  D-dimer extremely elevated to [**Numeric Identifier 6835**]
   which suggests DIC.
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Vancomycin - [**2146-3-3**] 03:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-4**] 05:46 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2146-3-3**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-4**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (96.9
   HR: 78 (74 - 90) bpm
   BP: 101/45(61) {79/39(35) - 142/106(142)} mmHg
   RR: 26 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (0 - 32)mmHg
   Bladder pressure: 18 (18 - 30) mmHg
   Total In:
                                                                  6,748 mL
                                                                    284 mL
   PO:
   TF:
   IVF:
                                                                  2,855 mL
                                                                    284 mL
   Blood products:
                                                                  3,163 mL
   Total out:
                                                                  5,752 mL
                                                                  1,420 mL
   Urine:
                                                                     32 mL
                                                                     20 mL
   NG:
                                                                    700 mL
                                                                    700 mL
   Stool:
   Drains:
                                                                  5,000 mL
                                                                    700 mL
   Balance:
                                                                    996 mL
                                                                 -1,136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 266 (167 - 266) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.26/35/128/15/-10
   Ve: 11.6 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   38 K/uL
   10.3 g/dL
   204 mg/dL
   3.6 mg/dL
   15 mEq/L
   4.4 mEq/L
   76 mg/dL
   111 mEq/L
   141 mEq/L
   29.4 %
   5.1 K/uL
        [image002.jpg]
                             [**2146-3-3**]  05:04 AM
                             [**2146-3-3**]  08:13 AM
                             [**2146-3-3**]  02:00 PM
                             [**2146-3-3**]  02:45 PM
                             [**2146-3-3**]  08:41 PM
                             [**2146-3-3**]  09:41 PM
                             [**2146-3-3**]  10:55 PM
                             [**2146-3-4**]  12:50 AM
                             [**2146-3-4**]  04:15 AM
                             [**2146-3-4**]  05:40 AM
   WBC
   6.1
   3.3
   2.5
   4.3
   5.1
   Hct
   26.6
   22.5
   23.1
   23.7
   28.1
   29.4
   Plt
   42
   46
   33
   28
   41
   38
   Cr
   3.6
   3.2
   3.4
   3.6
   TCO2
   11
   16
   16
   Glucose
   [**Telephone/Fax (3) 7916**]04
   Other labs: PT / PTT / INR:25.3/41.4/2.5, ALT / AST:17/35, Alk Phos / T
   Bili:165/14.3, Differential-Neuts:85.3 %, Lymph:6.7 %, Mono:6.1 %,
   Eos:1.5 %, D-dimer:[**Numeric Identifier 7917**] ng/mL, Fibrinogen:149 mg/dL, Lactic Acid:2.9
   mmol/L, Albumin:3.9 g/dL, LDH:151 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:6.3 mg/dL
   CT Scan [**2145-3-2**]: (prelim read)
   MASSIVE ASCITES INCREASED SINCE [**2145-3-23**]. ASCITES IS
   NON-HEMORRHAGIC BY
   DENSITY. TIPS STENT PRESENT. CIRRHOSIS. ANASARCA. CONSOLIDATION IN THE
   LUNG
   BASES. NOTE IS MADE OF SMALL LOCULE OF GAS ADJACENT TO THE ANTERIOR
   ABDOMINAL
   WALL ON THE LEFT (2:55) WHICH IS UNCLEAR AS TO INTRALUMINAL OR
   EXTRALUMINAL
   GIVEN LARGE AMOUNT OF ASCITES AND LACK OF INTRAVENOUS CONTRAST TO
   DELINEATE
   BOWEL. [**Doctor Last Name **] [**Numeric Identifier 1111**]
   Assessment and Plan
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ASSESSMENT AND PLAN: 58 F with history of HCV cirrhosis s/p TIPS, CKD,
   admit from OSH with encephalopathy and hepatorenal syndrome.
   .
   # Pancytopenia/DIC:  Patient had acute lowering of CBC despite 3uPRBC
   yesterday, concern was for a bleed vs hemolysis vs DIC.  CT scan of the
   abdomen was performed which showed no signs of hemoperitoneum s/p
   paracentesis.  Hemolysis labs were negative.  DIC labs showed severely
   elevated D-dimer to [**Numeric Identifier 6835**] along with mildly low fibrinogen and slightly
   elevated FDP which are all concerning for DIC.  Patient has two risk
   factors for DIC with liver failure and SBP.
   -- q6h CBC
   -- transfuse 1uPRBC for HCT < 25
   -- transfuse FFP for INR > 2
   -- speak with liver consult regarding coagulopathy
   -- Heme/Onc consult
   -- PPI IV BID
   .
   # Hepatorenal syndrome - likely triggered by 11 L Para on [**2-24**] with
   only 25gm albumin. Patient is currently oliguric x 2 days.  Renal has
   been following.  Patinet has been receiving colloid resuscitation for
   fluid challenge and assistance with perfusion.  She received 4uPRBC
   yesterday along with 3 units of 50mg Albumin.  She became hypotensive
   despite this management and Vasopressin and Levophed were started.
   -f/u renal recs
   -cont albumin 50g [**Hospital1 **]
   -renal recommending HD line placement but concern if for bleeding with
   new DIC, family meeting will be held today to discuss goals of care
   - cont Vasopressin and Levophed for goal MAP > 65 for optimal
   perfusion, wean as tolerated
   .
   # SBP: klebsiella (micro in chart, R only to ampicillin).  Repeat Para
   done yesterday confirms SBP
   -will cont with Vanco/Zosyn given current status and new consolidations
   on CT scan
   -check blood, urine cx as above
   -f/u pertitoneal culture
   .
   # Altered mental status - likely hepatic encephalopathy triggered by
   SBP and hepatorenal syndrome.  Currently sedated for mechanical
   ventilation.  NGT with large amounts of gastric contents to suction,
   suggesting ileus.  Lactulose cannot be given orally, will need to hold
   oral meds.
   -change PO meds to IV
   -hold lactulose, rifaximin PO
   -add lactulose PR
   -treat SBP, hepatorenal as below
   .
   # Respiratory Failure:  Patient was intubated for airway protection in
   setting of AMS.
   -- cont PC ventilation
   -- cont fentanyl/versed for sedation
   -- VAP bundle
   .
   # Hyperkalemia - in setting of renal failure, currently stable
   - kayexalate for K+ > 5.5
   .
   # HCV cirrhosis - decompensated w/ varices, massive ascites s/p tips,
   encephalopathy. Awaiting transplant.
   -treat complications as above
   - f/u liver recs
   .
   # DM2
 increase lantus from 18u daily to 22u daily for hyperglycemia,
   and HISS, but 1/2 dose while NPO
   .
   # Seizure disorder -
   - change carbamazepine PO to keppra IV
   .
   # Depression/Anxiety. - holding psych meds due to delta MS.
   .
   # PPx:
   - pneumoboots, PPI IV BID
   .
   # FEN: NPO for now given MS.
   .
   # Access PIV X2
   # Code: Full
   # Dispo: pending improvement.  Plan is for family meeting today to
   discuss goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-3-3**] 01:35 AM
   20 Gauge - [**2146-3-3**] 01:35 AM
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Arterial Line - [**2146-3-3**] 04:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-03-04 10:06:00 Physician Attending Progress Note
Chief Complaint: HRS
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2146-3-3**] 09:30 AM
   ABD
 PARACENTESIS - At [**2146-3-3**] 09:30 AM
   attempted
 INVASIVE VENTILATION - START [**2146-3-3**] 10:25 AM
 MULTI LUMEN - START [**2146-3-3**] 10:57 AM
 PARACENTESIS - At [**2146-3-3**] 02:40 PM
 ARTERIAL LINE - START [**2146-3-3**] 04:12 PM
 PARACENTESIS - At [**2146-3-3**] 04:18 PM
   5L's: SBP
   Dropped pressure to 80s, repleted with albumin and PRBC, started on
   vaso and levo, Hct didnt bump appropriately, bladder pressure 9. No
   improvement in UO. CT [**Last Name (un) 499**] showed no intraabd bleed. DIC labs +. Large
   amount of NGT output and oozing from tap sites. Coffee grounds from NGT
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Vancomycin - [**2146-3-3**] 03:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-4**] 05:46 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-4**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 80 (74 - 90) bpm
   BP: 100/46(62) {79/39(35) - 142/106(142)} mmHg
   RR: 24 (0 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 12 (0 - 32)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
                              Total In:
                                                                  6,748 mL
                                                                    557 mL
   PO:
                              TF:
   IVF:
                                                                  2,855 mL
                                                                    357 mL
   Blood products:
                                                                  3,163 mL
                                                                    200 mL
   Total out:
                                                                  5,752 mL
                                                                  1,463 mL
   Urine:
                                                                     32 mL
                                                                     38 mL
   NG:
                                                                    700 mL
                                                                    725 mL
   Stool:
   Drains:
                                                                  5,000 mL
                                                                    700 mL
   Balance:
                                                                    996 mL
                                                                   -906 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 639 (167 - 639) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.26/35/128/15/-10
   Ve: 8 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Head, Ears, Nose, Throat: NG tube, ETT
   Cardiovascular: (S1: Normal), (S2: Normal), loud L parasternal murmur
   Peripheral Vascular: All pulses present
   Respiratory / Chest: Bilateral ronchorous
   Abdominal: No bowel sounds present, +++  Distended, Fluid wave
   Extremities: Right: 4+, Left: 4+
   Skin:  warm, well perfused, oozing from multiple sites
   Neurologic: Sedated
   Labs / Radiology
   10.3 g/dL
   38 K/uL
   204 mg/dL
   3.6 mg/dL
   15 mEq/L
   4.4 mEq/L
   76 mg/dL
   111 mEq/L
   141 mEq/L
   29.4 %
   5.1 K/uL
        [image002.jpg]
                             [**2146-3-3**]  05:04 AM
                             [**2146-3-3**]  08:13 AM
                             [**2146-3-3**]  02:00 PM
                             [**2146-3-3**]  02:45 PM
                             [**2146-3-3**]  08:41 PM
                             [**2146-3-3**]  09:41 PM
                             [**2146-3-3**]  10:55 PM
                             [**2146-3-4**]  12:50 AM
                             [**2146-3-4**]  04:15 AM
                             [**2146-3-4**]  05:40 AM
   WBC
   6.1
   3.3
   2.5
   4.3
   5.1
   Hct
   26.6
   22.5
   23.1
   23.7
   28.1
   29.4
   Plt
   42
   46
   33
   28
   41
   38
   Cr
   3.6
   3.2
   3.4
   3.6
   TCO2
   11
   16
   16
   Glucose
   [**Telephone/Fax (3) 7916**]04
   Other labs: PT / PTT / INR:25.3/41.4/2.5, ALT / AST:17/35, Alk Phos / T
   Bili:165/14.3, Differential-Neuts:85.3 %, Lymph:6.7 %, Mono:6.1 %,
   Eos:1.5 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:149 mg/dL, Lactic Acid:2.9
   mmol/L, Albumin:3.9 g/dL, LDH:151 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:6.3 mg/dL
   Imaging: CT [**Last Name (un) 499**]: bibasilar lung infiltrates, multiple AF levels,
   asicits, no hematomas
   Microbiology: Acs fluid: 4+ polys, all else pend
   Assessment and Plan
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   58 F with history of HCV cirrhosis s/p TIPS, CKD, now with HRS and DIC
   with SBP, ileus.
   HRS: progressive, still in renal failure, lactulose enemas since upper
   GI not moving. On octrotide and midodrine. Monitor bladderpressure.
   Continue albumin.
   DIC: Trend labs q6h, replace products with set goals if INR < 2,
   platelets > 30, Hct < 25, fibrinigen < 100, d/w liver svc, trate
   underlying cause...DIC from sepsis/liver failure....TTP unkiley with
   lack of skin changes. Give vit K x 1
   GI: change all meds to iv, [**Doctor First Name **] residual, give reglan, ppi [**Hospital1 **]
   ID: Aspiration pna + SBP: On Vanc per level and zosyn, corrected for
   renal func. Check sputum cx.
   Vent: Stable on PCV
   DM2 - continue lantus, and HISS, but 1/2 dose while NPO , BGT 200s
   Seizure disorder -  change carbemazepine to keppra iv
   Family meeting reg prognosis at 1 pm today
   ICU Care
   Nutrition: npo, ileus
   Glycemic Control:  lantus + ssi
   Lines:
   22 Gauge - [**2146-3-3**] 01:35 AM
   20 Gauge - [**2146-3-3**] 01:35 AM
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Arterial Line - [**2146-3-3**] 04:12 PM
   Prophylaxis:
   DVT: INR high
   Stress ulcer: ppi
   VAP: bundle
   Comments:
   Communication:  Comments: Fly meeting at 1
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 min

2146-03-05 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Levophed off at 3pm yesterday. Vasopressin off at 6am this morning.
   Family mtg yesterday, patient's family agreed that patient would want
   to keep going with aggressive care for now.
   Renal will consider RRT today.
   Followed DIC labs overnight - pt received: 5 units FFP, 3 units pRBC's
   and 1 unit platelets. Fibrinogen remained above 100.
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Vancomycin - [**2146-3-3**] 03:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-5**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-5**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-5**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 83 (78 - 88) bpm
   BP: 112/49(63) {99/45(61) - 155/71(130)} mmHg
   RR: 26 (24 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 28 (21 - 283)mmHg
   Bladder pressure: 33 (33 - 33) mmHg
   Total In:
                                                                  3,418 mL
                                                                  1,384 mL
   PO:
   TF:
   IVF:
                                                                  1,272 mL
                                                                    207 mL
   Blood products:
                                                                  2,146 mL
                                                                  1,177 mL
   Total out:
                                                                  1,942 mL
                                                                    528 mL
   Urine:
                                                                     67 mL
                                                                     28 mL
   NG:
                                                                  1,175 mL
                                                                    150 mL
   Stool:
   Drains:
                                                                    700 mL
                                                                    350 mL
   Balance:
                                                                  1,476 mL
                                                                    856 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+/PSV
   Vt (Spontaneous): 146 (146 - 639) mL
   PS : 14 cmH2O
   RR (Set): 26
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.28/37/123/16/-8
   Ve: 8.7 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: intubated, but arousable this morning, opening
   eyes. Resedated.
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale. Icteric.
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: RRR (S1: Normal), (S2: Normal), Murmur: Systolic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Rhonchorous: upper airway)
   Abdominal: Tense, massive ascites.
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Muscle wasting
   Skin:  Warm; jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   29 K/uL
   10.8 g/dL
   183 mg/dL
   3.9 mg/dL
   16 mEq/L
   4.5 mEq/L
   81 mg/dL
   109 mEq/L
   141 mEq/L
   31.2 %
   4.6 K/uL
        [image002.jpg]
                             [**2146-3-3**]  08:41 PM
                             [**2146-3-3**]  09:41 PM
                             [**2146-3-3**]  10:55 PM
                             [**2146-3-4**]  12:50 AM
                             [**2146-3-4**]  04:15 AM
                             [**2146-3-4**]  05:40 AM
                             [**2146-3-4**]  01:24 PM
                             [**2146-3-4**]  08:58 PM
                             [**2146-3-5**]  03:32 AM
                             [**2146-3-5**]  03:38 AM
   WBC
   3.3
   2.5
   4.3
   5.1
   4.6
   Hct
   22.5
   23.1
   23.7
   28.1
   29.4
   25.2
   25.2
   31.2
   Plt
   33
   28
   41
   38
   29
   Cr
   3.4
   0.0
   4.2
   3.9
   TCO2
   16
   18
   Glucose
   195
   204
   198
   183
   Other labs: PT / PTT / INR:18.4/39.2/1.7, ALT / AST:15/26, Alk Phos / T
   Bili:122/15.4, Differential-Neuts:85.3 %, Lymph:6.7 %, Mono:6.1 %,
   Eos:1.5 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:160 mg/dL, Lactic Acid:2.3
   mmol/L, Albumin:4.2 g/dL, LDH:147 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:6.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ASSESSMENT AND PLAN: 58 F with history of HCV cirrhosis s/p TIPS, CKD,
   admit from OSH with encephalopathy and hepatorenal syndrome with
   respiratory failure.
   # Respiratory Failure: Patient waking up this morning and was not
   synchronous with the vent (on PCV) so she was transitioned to MMV with
   good effect. Continues to have acid/base derangements secondary to
   renal failure and with the magnitude of her ascites would be unable to
   breath at the minute ventilation required to compensate. Paracentesis
   is an option to help with her volume status, however, she reaccumulates
   very quickly and would not provide a good solution to her acidosis.
   -          RRT for acid base status and probable continued wean
   -          Can consider paracentesis
   -          Attempt SBP after HD
   # Septic Shock
 likely source was SBP. Cultures not growing any
   bacteria at this time, and she continues on Zosyn for this. Vanco also
   added for ?pna. Patient seems to be improving, now off both pressors
   and hypertensive.
   -          continue to follow cultures
   -          continue abx
   -          MAP>65
   .
   # DIC:  patient has several reasons to cause DIC, but most likely is
   sepsis.   Received multiple products overnight.
   -- q6h hct, plts, coags and fibrinogen
   -- transfuse PRBC for HCT < 25
   -- transfuse FFP for INR > 2
   -- transfuse cryo for fibrinogen <100
   -- PPI IV BID
   # Hepatorenal syndrome - likely triggered by 11 L Para on [**2-24**] with
   only 25gm albumin. Patient is currently oliguric.  Renal has been
   following.  She is now off pressors, and continues on albumin 50g/[**Hospital1 **].
   -f/u renal recs
   -cont albumin 50g [**Hospital1 **]
   -hopeful for RRT to begin today as discussed above
   -consider restarting midodrine if tolerates TF
   # Altered mental status - likely hepatic encephalopathy triggered by
   SBP and hepatorenal syndrome.  Currently sedated for mechanical
   ventilation. NGT has reduced output. Can try to use GI route again
   today.
   -hold PO meds to IV
   -can retry PO lactulose
   -treat SBP, hepatorenal as below
   # Hyperkalemia - in setting of renal failure, currently stable
   - kayexalate for K+ > 5.5
   .
   # HCV cirrhosis - decompensated w/ varices, massive ascites s/p tips,
   encephalopathy. Awaiting transplant.
   -treat complications as above
   - f/u liver recs
   .
   # DM2
 increase lantus from 26u daily to 30u daily for hyperglycemia,
   and HISS
   .
   # Seizure disorder -
   - change carbamazepine PO to keppra IV
   .
   # Depression/Anxiety. - holding psych meds due to delta MS.
   .
   # PPx:  pneumoboots, PPI IV BID, VAP bundle
   .
   # FEN: TF
s today.
   .
   # Access PIV X2 , RIJ, aline
   # Code: Full
   # Dispo: pending improvement.
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   22 Gauge - [**2146-3-3**] 01:35 AM
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Arterial Line - [**2146-3-3**] 04:12 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2146-03-05 08:25:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Off all rpessors
   woke up, SBP 170s
   Bladder pr 38-42
   On PSV 10/10 on vent, 40%, 7.24/40/120, RR, prolonged expiration
   Family meeting yesterday:keep trying for few more days to help her
   bridge to transplant and get over infection
   DIC labs followed: 5U FFP, 3U PRBC, 1 platelet, fibrinogen > 100, gone
   up
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Vancomycin - [**2146-3-3**] 03:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-5**] 06:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-5**] 06:00 AM
   Fentanyl - [**2146-3-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-5**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 95 (78 - 95) bpm
   BP: 172/70(98) {99/45(61) - 172/71(130)} mmHg
   RR: 9 (9 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 45 (21 - 283)mmHg
   Bladder pressure: 42 (33 - 42) mmHg
                                Total In:
                                                                  3,418 mL
                                                                  1,698 mL
   PO:
                                TF:
   IVF:
                                                                  1,272 mL
                                                                    219 mL
   Blood products:
                                                                  2,146 mL
                                                                  1,479 mL
   Total out:
                                                                  1,942 mL
                                                                    538 mL
   Urine:
                                                                     67 mL
                                                                     38 mL
   NG:
                                                                  1,175 mL
                                                                    150 mL
   Stool:
   Drains:
                                                                    700 mL
                                                                    350 mL
   Balance:
                                                                  1,476 mL
                                                                  1,160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+/PSV
   Vt (Spontaneous): 146 (146 - 639) mL
   PS : 14 cmH2O
   RR (Set): 26
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.28/37/123/16/-8
   Ve: 8.7 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Head, Ears, Nose, Throat: NG tube, ETT
   Cardiovascular: (S1: Normal), (S2: Normal), loud L parasternal murmur
   Peripheral Vascular: All pulses present
   Respiratory / Chest: Clear
   Abdominal: No bowel sounds present, +++  Distended, Fluid wave
   Extremities: Right: 4+, Left: 4+
   Skin:  warm, well perfused, oozing from multiple sites
   Neurologic: Sedated, comfortable
   Labs / Radiology
   10.8 g/dL
   29 K/uL
   183 mg/dL
   3.9 mg/dL
   16 mEq/L
   4.5 mEq/L
   81 mg/dL
   109 mEq/L
   141 mEq/L
   31.2 %
   4.6 K/uL
        [image002.jpg]
                             [**2146-3-3**]  08:41 PM
                             [**2146-3-3**]  09:41 PM
                             [**2146-3-3**]  10:55 PM
                             [**2146-3-4**]  12:50 AM
                             [**2146-3-4**]  04:15 AM
                             [**2146-3-4**]  05:40 AM
                             [**2146-3-4**]  01:24 PM
                             [**2146-3-4**]  08:58 PM
                             [**2146-3-5**]  03:32 AM
                             [**2146-3-5**]  03:38 AM
   WBC
   3.3
   2.5
   4.3
   5.1
   4.6
   Hct
   22.5
   23.1
   23.7
   28.1
   29.4
   25.2
   25.2
   31.2
   Plt
   33
   28
   41
   38
   29
   Cr
   3.4
   0.0
   4.2
   3.9
   TCO2
   16
   18
   Glucose
   195
   204
   198
   183
   Other labs: PT / PTT / INR:18.4/39.2/1.7, ALT / AST:15/26, Alk Phos / T
   Bili:122/15.4, Differential-Neuts:85.3 %, Lymph:6.7 %, Mono:6.1 %,
   Eos:1.5 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:160 mg/dL, Lactic Acid:2.3
   mmol/L, Albumin:4.2 g/dL, LDH:147 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:6.6 mg/dL
   CXR: pend
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
    58 F with history of HCV cirrhosis s/p TIPS, CKD, now with HRS and DIC
   with SBP, bibasilar pneumonia, ileus.
   Off pressors today. Progressive renal failure.
   Shock: septic, resolving, off pressors. Vanc  per level+ Zosyn. All cxs
   neg so far.  Initial insult was [**Hospital1 **]-basilar PNA and SBP
   GI: Try to see if we can give her meds down NGT. On reglan q6h to
   promote motility
and would favor lactulose
   HRS: continue albumin, Lactulose and octreotide. Try rifaximin.  HD
   today. Bladder pressure high
tap later today after HD.  Will have to
   follow bladder pressure today
   DIC: Controlled with product replacement. Fibrinogen rising.
   Vent: Wean sedation and wean after procedures. Currently on MMV 500 x
   16. Comfortable.  Will need to provide negative fluid balance, improved
   mental status and decreased abdominal pressures before reasonable
   expectation to move towards successful exbuation can be attempted
   DM2 - adjust lantus, and RISS, BGT 150-200
   Seizure disorder -  change carbemazepine to keppra iv
   ICU Care
   Nutrition: npo, ileus
   Glycemic Control:  lantus + ssi
   Lines:
   22 Gauge - [**2146-3-3**] 01:35 AM
   20 Gauge - [**2146-3-3**] 01:35 AM
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Arterial Line - [**2146-3-3**] 04:12 PM
   Prophylaxis:
   DVT: INR high, boots
   Stress ulcer: ppi
   VAP: bundle
   Comments:
   Communication:  Comments: Daily family update
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 min

2146-03-06 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2146-3-5**] 05:30 PM
   Pt started on CVVH last pm
   Remained off pressors
   Still with significant NGT output, po meds not restarted
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-6**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Midazolam (Versed) - 2 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2146-3-6**] 12:30 AM
   Fentanyl - [**2146-3-6**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-6**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.1
C (95.1
   HR: 77 (74 - 100) bpm
   BP: 110/54(69) {105/53(44) - 172/74(98)} mmHg
   RR: 16 (6 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 14 (14 - 31)mmHg
   CO/CI (Fick): (14.5 L/min) / (7.1 L/min/m2)
   Bladder pressure: 42 (42 - 42) mmHg
   Mixed Venous O2% Sat: 86 - 86
                                Total In:
                                                                  2,932 mL
                                                                  1,098 mL
   PO:
                                TF:
                                                                     50 mL
                                                                     79 mL
   IVF:
                                                                    856 mL
                                                                    663 mL
   Blood products:
                                                                  1,876 mL
                                                                    297 mL
   Total out:
                                                                  1,339 mL
                                                                  2,092 mL
   Urine:
                                                                     60 mL
                                                                     21 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
                                                                    350 mL
                                                                    325 mL
   Balance:
                                                                  1,593 mL
                                                                   -994 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 239 (239 - 1,028) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   SpO2: 100%
   ABG: 7.34/36/140/19/-5
   Ve: 7.4 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   29 K/uL
   10.3 g/dL
   122 mg/dL
   3.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   63 mg/dL
   106 mEq/L
   141 mEq/L
   29.1 %
   4.2 K/uL
        [image002.jpg]
                             [**2146-3-5**]  02:55 PM
                             [**2146-3-5**]  03:14 PM
                             [**2146-3-5**]  06:13 PM
                             [**2146-3-5**]  06:38 PM
                             [**2146-3-5**]  10:32 PM
                             [**2146-3-6**]  12:02 AM
                             [**2146-3-6**]  12:08 AM
                             [**2146-3-6**]  01:48 AM
                             [**2146-3-6**]  05:53 AM
                             [**2146-3-6**]  06:01 AM
   WBC
   5.7
   5.8
   4.2
   Hct
   30.5
   28.6
   29.1
   Plt
   31
   27
   26
   29
   Cr
   4.4
   3.4
   TCO2
   18
   17
   19
   20
   Glucose
   136
   128
   122
   Other labs: PT / PTT / INR:19.7/38.9/1.8, ALT / AST:13/23, Alk Phos / T
   Bili:98/18.2, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:128 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:4.3 g/dL, LDH:181 IU/L, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.7 mg/dL
   Imaging: CXR [**3-5**] FINDINGS: Left IJ has been placed with the tip at the
   distal brachiocephalic
   vein near the SVC junction. There is no pneumothorax. Other lines and
   tubes
   remain in place. No other significant changes.
   Microbiology: [**2146-3-4**] 10:11 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2146-3-4**]):
         [**11-20**] PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
         ? OROPHARYNGEAL FLORA.
         YEAST.    SPARSE GROWTH.
   [**2146-3-4**] 12:50 am URINE      Source: Catheter.
                               **FINAL REPORT [**2146-3-5**]**
      URINE CULTURE (Final [**2146-3-5**]):
         YEAST.    >100,000 ORGANISMS/ML..
   [**2146-3-3**] 3:27 pm PERITONEAL FLUID
      GRAM STAIN (Final [**2146-3-3**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
   ASSESSMENT AND PLAN: 58 F with history of HCV cirrhosis s/p TIPS, CKD,
   admit from OSH with encephalopathy and hepatorenal syndrome with
   respiratory failure.
   # Respiratory Failure: Patient waking up this morning and was not
   synchronous with the vent (on PCV) so she was transitioned to MMV with
   good effect. Continues to have acid/base derangements secondary to
   renal failure and with the magnitude of her ascites would be unable to
   breath at the minute ventilation required to compensate. Paracentesis
   is an option to help with her volume status, however, she reaccumulates
   very quickly and would not provide a good solution to her acidosis.
   -          RRT for acid base status and probable continued wean
   -          Can consider paracentesis
   -          Attempt SBP after HD
   # Septic Shock
 likely source was SBP. Cultures not growing any
   bacteria at this time, and she continues on Zosyn for this. Vanco also
   added for ?pna. Patient seems to be improving, now off both pressors
   and hypertensive.
   -          continue to follow cultures
   -          continue abx
   -          MAP>65
   .
   # DIC:  patient has several reasons to cause DIC, but most likely is
   sepsis.   Received multiple products overnight.
   -- q6h hct, plts, coags and fibrinogen
   -- transfuse PRBC for HCT < 25
   -- transfuse FFP for INR > 2
   -- transfuse cryo for fibrinogen <100
   -- PPI IV BID
   # Hepatorenal syndrome - likely triggered by 11 L Para on [**2-24**] with
   only 25gm albumin. Patient is currently oliguric.  Renal has been
   following.  She is now off pressors, and continues on albumin 50g/[**Hospital1 **].
   -f/u renal recs
   -cont albumin 50g [**Hospital1 **]
   -hopeful for RRT to begin today as discussed above
   -consider restarting midodrine if tolerates TF
   # Altered mental status - likely hepatic encephalopathy triggered by
   SBP and hepatorenal syndrome.  Currently sedated for mechanical
   ventilation. NGT has reduced output. Can try to use GI route again
   today.
   -hold PO meds to IV
   -can retry PO lactulose
   -treat SBP, hepatorenal as below
   # Hyperkalemia - in setting of renal failure, currently stable
   - kayexalate for K+ > 5.5
   .
   # HCV cirrhosis - decompensated w/ varices, massive ascites s/p tips,
   encephalopathy. Awaiting transplant.
   -treat complications as above
   - f/u liver recs
   .
   # DM2
 increase lantus from 26u daily to 30u daily for hyperglycemia,
   and HISS
   .
   # Seizure disorder -
   - change carbamazepine PO to keppra IV
   .
   # Depression/Anxiety. - holding psych meds due to delta MS.
   .
   # PPx:  pneumoboots, PPI IV BID, VAP bundle
   .
   # FEN: TF
s today.
   .
   # Access PIV X2 , RIJ, aline
   # Code: Full
   # Dispo: pending improvement.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2146-3-5**] 07:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-3-3**] 01:35 AM
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Arterial Line - [**2146-3-3**] 04:12 PM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-03-06 08:21:00 Physician Attending Progress Note
Chief Complaint: HRS
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2146-3-5**] 05:30 PM
   Started on CVVH yesterday, running 100/hr neg
   Bladder pressure 26 this am
   NGT output improved, no significant residuals, tolerating Lactulose but
   no stool yet.
   Got platelets which didn
t bump, for DIC. DIC labs stable
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-6**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Midazolam (Versed) - 2 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2146-3-6**] 12:30 AM
   Fentanyl - [**2146-3-6**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-6**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.2
   HR: 80 (74 - 100) bpm
   BP: 122/58(76) {105/53(44) - 158/74(95)} mmHg
   RR: 15 (6 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.7 kg (admission): 99.5 kg
   Height: 65 Inch
   CVP: 16 (14 - 31)mmHg
   CO/CI (Fick): (14.5 L/min) / (7.1 L/min/m2)
   Bladder pressure: 26 (26 - 26) mmHg
   Mixed Venous O2% Sat: 86 - 86
                               Total In:
                                                                  2,932 mL
                                                                  1,163 mL
   PO:
                               TF:
                                                                     50 mL
                                                                     83 mL
   IVF:
                                                                    856 mL
                                                                    693 mL
   Blood products:
                                                                  1,876 mL
                                                                    327 mL
   Total out:
                                                                  1,339 mL
                                                                  2,295 mL
   Urine:
                                                                     60 mL
                                                                     21 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
                                                                    350 mL
                                                                    325 mL
   Balance:
                                                                  1,593 mL
                                                                 -1,132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 239 (239 - 1,028) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   SpO2: 100%
   ABG: 7.34/36/140/19/-5
   Ve: 7.4 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Head, Ears, Nose, Throat: NG tube, ETT
   Cardiovascular: (S1: Normal), (S2: Normal), loud L parasternal murmur
   Peripheral Vascular: All pulses present
   Respiratory / Chest: Ronchorous
   Abdominal: Bowel sounds distant, +++  Distended, Fluid wave
   Extremities: Right: 4+, Left: 4+
   Skin:  warm, well perfused, oozing from multiple sites
   Neurologic: Sedated, comfortable
   Labs / Radiology
   10.3 g/dL
   29 K/uL
   122 mg/dL
   3.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   63 mg/dL
   106 mEq/L
   141 mEq/L
   29.1 %
   4.2 K/uL
        [image002.jpg]
                             [**2146-3-5**]  02:55 PM
                             [**2146-3-5**]  03:14 PM
                             [**2146-3-5**]  06:13 PM
                             [**2146-3-5**]  06:38 PM
                             [**2146-3-5**]  10:32 PM
                             [**2146-3-6**]  12:02 AM
                             [**2146-3-6**]  12:08 AM
                             [**2146-3-6**]  01:48 AM
                             [**2146-3-6**]  05:53 AM
                             [**2146-3-6**]  06:01 AM
   WBC
   5.7
   5.8
   4.2
   Hct
   30.5
   28.6
   29.1
   Plt
   31
   27
   26
   29
   Cr
   4.4
   3.4
   TCO2
   18
   17
   19
   20
   Glucose
   136
   128
   122
   Other labs: PT / PTT / INR:19.7/38.9/1.8, ALT / AST:13/23, Alk Phos / T
   Bili:98/18.2, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:128 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:4.3 g/dL, LDH:181 IU/L, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.7 mg/dL
   Urine cx: yeast
   Other cxs neg
   CXR: evolving bibasilar infiltrates
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   58 F with history of HCV cirrhosis s/p TIPS, CKD, now with HRS on CVVH
   and low grade DIC from Klebsiella SBP and bibasilar pneumonia. Ileus
   resolving. Off pressors today.
   Shock: septic, resolved. Continue Vanc and Zosyn x 10 days per CVVH
   dose.
   GI: Try to advance NGT feeds and Lactulose for encephalopathy. Add
   rifaximin. Try to see if we can give her meds down NGT. On reglan q6h
   to promote motility. Tap abdomen today.
   Renal: Switch CVVH to HD if SBP tolerates
   Swtich sedation to propofol drip and prn fentanyl.
   DIC: Controlled with product replacement. Fibrinogen rising.
   Vent: wake up and wean once off CVVH
   Seizure disorder -  change keppra to carbemazepine once gut working
   16:00  Sedation being removed. VE only 7L/min. Patient may be able to
   be extubated if mental status improves and respiratory controller
   function returns. On exam, patient is intubated and unresponsive. Chest
   is clear in anterior and lateral fields. PMI not displaced. I-II/VI
   systolic  murmur at apex. No gallop. Abdomen with minimal bowel sounds.
   Abdomen distended and firm. 1+ peripheral edema.
   Patient  to be switched to hemodialysis tomorrow. Patient getting
   Lactulose via NG tube.
   ICU Care
   Nutrition: trophic feeds
   Glycemic Control:  lantus + ssi
   Lines:
   22 Gauge - [**2146-3-3**] 01:35 AM
   20 Gauge - [**2146-3-3**] 01:35 AM
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Arterial Line - [**2146-3-3**] 04:12 PM
   Prophylaxis:
   DVT: INR high, boots
   Stress ulcer: ppi
   VAP: bundle
   Comments:
   Communication:  Comments: Daily family update
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 min

2146-03-07 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Vanc level low, gave Vanco 500mg IV x 1.
   Therapeutic Para done yesterday 3.5 L taken off.  WBC count now
   decreased, no SBP.  Resent cultures. ?bubbles from tubing during
   paracentesis.  CXR done and showed no signs of
   perforation/pneumoperitoneum.
   Platelets < 30, gave 1u Platelets overnight.
   Patient has not stooled overnight.
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Vancomycin - [**2146-3-6**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-7**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-7**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-7**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 89 (75 - 100) bpm
   BP: 95/87(90) {74/52(68) - 137/127(130)} mmHg
   RR: 16 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.7 kg (admission): 99.5 kg
   Height: 65 Inch
    CVP: 23 (17 - 30)mmHg
   Bladder pressure: 26 (26 - 26) mmHg
                                Total In:
                                                                  3,520 mL
                                                                    610 mL
   PO:
                                TF:
                                                                    390 mL
                                                                    199 mL
   IVF:
                                                                  1,737 mL
                                                                    234 mL
   Blood products:
                                                                  1,183 mL
                                                                     57 mL
   Total out:
                                                                  7,246 mL
                                                                    201 mL
   Urine:
                                                                     31 mL
                                                                     21 mL
   NG:
   Stool:
   Drains:
                                                                  3,925 mL
                                                                    180 mL
   Balance:
                                                                 -3,726 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 584 (244 - 590) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.36/37/131/21/-3
   Ve: 7.7 L/min
   PaO2 / FiO2: 328
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   61 K/uL
   10.8 g/dL
   176 mg/dL
   3.3 mg/dL
   21 mEq/L
   3.6 mEq/L
   59 mg/dL
   104 mEq/L
   140 mEq/L
   30.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2146-3-6**]  12:08 AM
                             [**2146-3-6**]  01:48 AM
                             [**2146-3-6**]  05:53 AM
                             [**2146-3-6**]  06:01 AM
                             [**2146-3-6**]  12:02 PM
                             [**2146-3-6**]  12:16 PM
                             [**2146-3-6**]  02:58 PM
                             [**2146-3-6**]  09:59 PM
                             [**2146-3-7**]  12:53 AM
                             [**2146-3-7**]  03:57 AM
   WBC
   4.2
   4.4
   4.2
   8.2
   Hct
   29.1
   27.5
   28.2
   30.7
   Plt
   26
   29
   34
   26
   47
   61
   Cr
   3.4
   3.3
   TCO2
   19
   20
   22
   Glucose
   122
   126
   176
   Other labs: PT / PTT / INR:19.5/39.4/1.8, ALT / AST:[**12-11**], Alk Phos / T
   Bili:89/20.4, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:134 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:4.3 g/dL, LDH:181 IU/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.5 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 58 F with history of HCV cirrhosis s/p TIPS, CKD,
   admit from OSH with encephalopathy and hepatorenal syndrome with
   respiratory failure.
    # Respiratory Failure: Patient intubated [**2-28**] encephalopathy.
   Currently on MMV as patient did not tolerate PS likely [**2-28**] massive
   ascites.  Will attempt to wean as tolerated.  Will change
   fentany/versed to propofol given liver failure.
   -                Paracentesis today
   -                Wean as tolerated
   -                SBT as tolerated
    # Septic Shock
 likely source was SBP. Which grew Klebsiella at OSH
   sensitive to CTX.  Given decompensation, she has been broadened to
   Vanco/Zosyn.  Cultures have been negative here
   -          continue to follow cultures
   -          continue Vanco/Zosyn for 10 day course
   -          MAP>65
   # DIC:  Most likely [**2-28**] sepsis/liver failure.    HCT, fibrinogen has
   remained stable.  PLT < 30 overnight and received 2u Platelets, which
   did not rise appropriately.
   -- q8h hct, plts, coags and fibrinogen
   -- transfuse PRBC for HCT < 25
   -- transfuse FFP for INR > 2
   -- transfuse cryo for fibrinogen <100
   -- PPI IV BID
   # Hepatorenal syndrome - likely triggered by 11 L Para on [**2-24**] with
   only 25gm albumin. Patient is currently oliguric.  Renal has been
   following.  She is now off pressors.  Holding daily albumin.  Patient
   was on CVVH this morning but line has clotted off.  Currently, plan is
   to stop CVVH and start HD tomorrow.
   -f/u renal recs
   -consider restarting midodrine if tolerates TF
    # Altered mental status - likely hepatic encephalopathy triggered by
   SBP and hepatorenal syndrome.  Currently sedated for mechanical
   ventilation. NGT has reduced output, will restart lactulose today.  If
   begins to stool then will restart rifaximin.
   -hold PO meds to IV
   -can retry PO lactulose
   -treat SBP, hepatorenal as above
   # Hyperkalemia - in setting of renal failure, currently stable
   - kayexalate for K+ > 5.5
   # HCV cirrhosis - decompensated w/ varices, massive ascites s/p tips,
   encephalopathy. Awaiting transplant.
   -treat complications as above
   - f/u liver recs
   .# DM2
 increase lantus 30u daily for hyperglycemia, and HISS
   .# Seizure disorder -
   - cont keppra IV
   .# Depression/Anxiety. - holding psych meds due to delta MS.
   # PPx:  pneumoboots, PPI IV BID, VAP bundle
   # FEN: TF
s today.
   # Access PIV X2 , RIJ, aline
   # Code: Full
   # Dispo: pending improvement.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2146-3-7**] 01:58 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Arterial Line - [**2146-3-3**] 04:12 PM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-03-07 10:26:00 Physician Attending Progress Note
Chief Complaint: HRS, SBP
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   3.5 L para yesterday. WBC shows SBP cleared, cxs bland. CXR showed no
   air under diaphragm. Stooling now! Still has NGT aspirates. Off all
   sedation, moving a little, not waking up yet. CVVH turned off, HD vs UF
   today. Not making urine. Bladder pr 18. foley changed due to yeast.
   Patient unable to provide history: Sedated
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Vancomycin - [**2146-3-6**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-7**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-7**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 98 (78 - 110) bpm
   BP: 119/105(111) {74/52(68) - 137/127(160)} mmHg
   RR: 15 (14 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.7 kg (admission): 99.5 kg
   Height: 65 Inch
   CVP: 15 (15 - 30)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
                               Total In:
                                                                  3,520 mL
                                                                    775 mL
   PO:
                               TF:
                                                                    390 mL
                                                                    237 mL
   IVF:
                                                                  1,737 mL
                                                                    361 mL
   Blood products:
                                                                  1,183 mL
                                                                     57 mL
   Total out:
                                                                  7,246 mL
                                                                    351 mL
   Urine:
                                                                     31 mL
                                                                     21 mL
   NG:
   150 mL
   Stool:
   Drains:
                                                                  3,925 mL
                                                                    180 mL
   Balance:
                                                                 -3,726 mL
                                                                    424 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 528 (244 - 590) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: 7.36/37/131/21/-3
   Ve: 16.5 L/min
   PaO2 / FiO2: 328
   Physical Examination
   Head, Ears, Nose, Throat: NG tube, ETT
   Cardiovascular: (S1: Normal), (S2: Normal), loud L parasternal murmur
   Peripheral Vascular: All pulses present
   Respiratory / Chest: Ronchorous
   Abdominal: Bowel sounds +, +++  Distended, Fluid wave
   Extremities: Right: 4+, Left: 4+
   Skin:  warm, well perfused
   Neurologic: comfortable
   Labs / Radiology
   10.8 g/dL
   61 K/uL
   176 mg/dL
   3.3 mg/dL
   21 mEq/L
   3.6 mEq/L
   59 mg/dL
   104 mEq/L
   140 mEq/L
   30.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2146-3-6**]  12:08 AM
                             [**2146-3-6**]  01:48 AM
                             [**2146-3-6**]  05:53 AM
                             [**2146-3-6**]  06:01 AM
                             [**2146-3-6**]  12:02 PM
                             [**2146-3-6**]  12:16 PM
                             [**2146-3-6**]  02:58 PM
                             [**2146-3-6**]  09:59 PM
                             [**2146-3-7**]  12:53 AM
                             [**2146-3-7**]  03:57 AM
   WBC
   4.2
   4.4
   4.2
   8.2
   Hct
   29.1
   27.5
   28.2
   30.7
   Plt
   26
   29
   34
   26
   47
   61
   Cr
   3.4
   3.3
   TCO2
   19
   20
   22
   Glucose
   122
   126
   176
   Other labs: PT / PTT / INR:19.5/39.4/1.8, ALT / AST:[**12-11**], Alk Phos / T
   Bili:89/20.4, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:134 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:4.3 g/dL, LDH:181 IU/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   58 F with history of HCV cirrhosis s/p TIPS, CKD, now with HRS and low
   grade resolving DIC from Klebsiella SBP and bibasilar pneumonia. Ileus
   resolving. Sepsis resolved.
   Shock: septic, resolved. Continue Vanc x 7 days and Zosyn x 10 days per
   HD dose.
   GI: Try to advance reglan and Lactulose for encephalopathy. Add
   rifaximin. [**Last Name (un) **] soft today, tap prn.
   Renal: Switch CVVH to HD
   DIC: stable, DIC labs [**Hospital1 **].
   Vent: wake up and wean to PSV, all sedation off.
   Seizure disorder
 on Keppra iv
   Rest per resident note
   ICU Care
   Nutrition:
   TF intermitent
   Glycemic Control:  lantus and ssi
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Arterial Line - [**2146-3-3**] 04:12 PM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2146-03-08 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2146-3-7**] 01:00 PM
 BLOOD CULTURED - At [**2146-3-7**] 09:00 PM
   Patient put on propofol overnight for restlessness, hypertension.
   Reglan increased, continued lactulose/rifaxamine - stooling well
   Still no urine output
   DIC labs were wnl last night
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Vancomycin - [**2146-3-6**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-8**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-8**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-8**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 85 (79 - 113) bpm
   BP: 116/52(66) {93/45(56) - 167/91(108)} mmHg
   RR: 26 (14 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.7 kg (admission): 99.5 kg
   Height: 65 Inch
    CVP: 21 (15 - 24)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  1,722 mL
                                                                    482 mL
   PO:
   TF:
                                                                    500 mL
                                                                     79 mL
   IVF:
                                                                    705 mL
                                                                    314 mL
   Blood products:
                                                                    157 mL
   Total out:
                                                                    991 mL
                                                                    128 mL
   Urine:
                                                                     41 mL
                                                                      8 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
                                                                    300 mL
                                                                    120 mL
   Balance:
                                                                    731 mL
                                                                    354 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 375 (375 - 530) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 8.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   40 K/uL
   10.4 g/dL
   193 mg/dL
   3.7 mg/dL
   22 mEq/L
   3.4 mEq/L
   58 mg/dL
   105 mEq/L
   142 mEq/L
   29.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2146-3-6**]  05:53 AM
                             [**2146-3-6**]  06:01 AM
                             [**2146-3-6**]  12:02 PM
                             [**2146-3-6**]  12:16 PM
                             [**2146-3-6**]  02:58 PM
                             [**2146-3-6**]  09:59 PM
                             [**2146-3-7**]  12:53 AM
                             [**2146-3-7**]  03:57 AM
                             [**2146-3-7**]  04:55 PM
                             [**2146-3-8**]  03:27 AM
   WBC
   4.2
   4.4
   4.2
   8.2
   11.4
   6.5
   Hct
   29.1
   27.5
   28.2
   30.7
   33.0
   29.0
   Plt
   29
   34
   26
   47
   61
   61
   40
   Cr
   3.4
   3.3
   3.7
   TCO2
   20
   22
   Glucose
   122
   126
   176
   193
   Other labs: PT / PTT / INR:21.0/42.1/2.0, ALT / AST:[**12-11**], Alk Phos / T
   Bili:89/20.4, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:136 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:4.3 g/dL, LDH:181 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ASSESSMENT AND PLAN: 58 F with history of HCV cirrhosis s/p TIPS, CKD,
   admit from OSH with encephalopathy and hepatorenal syndrome with
   respiratory failure.
   # Respiratory Failure: Patient intubated [**2-28**] encephalopathy.  Off
   sedation. Will switch from MMV to CPAP/PS given that her minute
   ventilation is more than the set MMV rate. Continue to hold sedation;
   it will likely take some time for the versed to leave her system.
   -          if <10 peep, try RSBI
   # Septic Shock
 likely source was SBP. Cultures continue to be
   negative and WBC trending down on most recent para.
   -          continue to follow cultures
   -          continue Zosyn for 10 day course, Vanco for 7 day course
   -          MAP>65 (off pressors for 48 hours)
   # DIC:  Most likely [**2-28**] sepsis/liver failure.  HCT, fibrinogen has
   remained stable.  PLT < 30 overnight and received 1u Platelets.
   -- [**Hospital1 **] hct, plts, coags and fibrinogen
   -- transfuse PRBC for HCT < 25
   -- transfuse FFP for INR > 2
   -- transfuse cryo for fibrinogen <100
   -- PPI IV BID
   # Hepatorenal syndrome - likely triggered by 11 L Para on [**2-24**] with
   only 25gm albumin. Patient is currently oliguric.  Renal has been
   following.  She is now off pressors.  Holding daily albumin.  Patient
   was on CVVH this morning but line has clotted off. Currently, plan is
   to stop CVVH and start HD today.
   -f/u renal recs
   -consider restarting midodrine if tolerates TF
   # Altered mental status - likely hepatic encephalopathy triggered by
   SBP and hepatorenal syndrome.  Restarted lactulose and rifaxamine today
 stooling as of this morning.
   -push PO lactulose
   -treat SBP, hepatorenal as above
   # HCV cirrhosis - decompensated w/ varices, massive ascites s/p tips,
   encephalopathy. Awaiting transplant.
   -treat complications as above
   - f/u liver recs
   .# DM2
 increase lantus 32u daily for hyperglycemia, and HISS
   .# Seizure disorder -
   - cont keppra IV
   .# Depression/Anxiety. - holding psych meds due to delta MS.
   # PPx:  pneumoboots, PPI IV BID, VAP bundle
   # FEN: TF
s today.
   # Access RIJ, HD line
   # Code: Full
   # Dispo: pending improvement.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2146-3-8**] 04:36 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-03-08 11:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2146-3-7**] 01:00 PM
 BLOOD CULTURED - At [**2146-3-7**] 09:00 PM
   Propofol briefly for agitation
   Stooling well
   Bladder pressure high in 20s
   No U/o
   DIC labs stable
   Patient unable to provide history: Encephalopathy
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Vancomycin - [**2146-3-6**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-8**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-8**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 100 (79 - 113) bpm
   BP: 147/63(81) {93/45(56) - 167/91(108)} mmHg
   RR: 28 (14 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.7 kg (admission): 99.5 kg
   Height: 65 Inch
   CVP: 19 (17 - 24)mmHg
   Bladder pressure: 25 (25 - 25) mmHg
   Total In:
                                                                  1,722 mL
                                                                    627 mL
   PO:
   TF:
                                                                    500 mL
                                                                    123 mL
   IVF:
                                                                    705 mL
                                                                    413 mL
   Blood products:
                                                                    157 mL
   Total out:
                                                                    991 mL
                                                                  1,103 mL
   Urine:
                                                                     41 mL
                                                                     33 mL
   NG:
                                                                    450 mL
                                                                    350 mL
   Stool:
   Drains:
                                                                    300 mL
                                                                    120 mL
   Balance:
                                                                    731 mL
                                                                   -476 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (375 - 530) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 99%
   Ve: 12.1 L/min
   Physical Examination
   Head, Ears, Nose, Throat: NG tube, ETT
   Cardiovascular: (S1: Normal), (S2: Normal), loud L parasternal murmur
   Peripheral Vascular: All pulses present
   Respiratory / Chest: clear
   Abdominal: Bowel sounds +, +++  Distended, Fluid wave
   Extremities: Right: 4+, Left: 4+
   Skin:  warm, well perfused
   Neurologic: obtunded
   Labs / Radiology
   10.4 g/dL
   40 K/uL
   193 mg/dL
   3.7 mg/dL
   22 mEq/L
   3.4 mEq/L
   58 mg/dL
   105 mEq/L
   142 mEq/L
   29.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2146-3-6**]  05:53 AM
                             [**2146-3-6**]  06:01 AM
                             [**2146-3-6**]  12:02 PM
                             [**2146-3-6**]  12:16 PM
                             [**2146-3-6**]  02:58 PM
                             [**2146-3-6**]  09:59 PM
                             [**2146-3-7**]  12:53 AM
                             [**2146-3-7**]  03:57 AM
                             [**2146-3-7**]  04:55 PM
                             [**2146-3-8**]  03:27 AM
   WBC
   4.2
   4.4
   4.2
   8.2
   11.4
   6.5
   Hct
   29.1
   27.5
   28.2
   30.7
   33.0
   29.0
   Plt
   29
   34
   26
   47
   61
   61
   40
   Cr
   3.4
   3.3
   3.7
   TCO2
   20
   22
   Glucose
   122
   126
   176
   193
   Other labs: PT / PTT / INR:21.0/42.1/2.0, ALT / AST:[**12-11**], Alk Phos / T
   Bili:89/20.4, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:136 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:4.3 g/dL, LDH:181 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.7 mg/dL
   Imaging: CXR: layering effusions bilat
   Assessment and Plan
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   58 F with history of HCV cirrhosis s/p TIPS, CKD, now with HRS and low
   grade resolving DIC from Klebsiella SBP and bibasilar pneumonia.
   Intermmittent ileus. Sepsis resolved.
   Shock: septic, resolved. Continue Vanc x 7 days and Zosyn x 10 days per
   HD dose.
   GI: Stooling well. Tense ascitis with high bladder pressure. Consider
   pigtail. High residuals, add erythromycin x 5 days
   Renal: Switch CVVH to HD
   DIC: stable, DIC labs [**Hospital1 **].
   Vent: wake up and wean to PSV, all sedation off.  Still encephalopathic
   but moving all extremities. Consider CT head and EEG if doesnt wake up
   in the next 48 hrs.
   Seizure disorder
 on Keppra iv
   Rest per resident note
   ICU Care
   Nutrition:
   TF intermitent
   Glycemic Control:  lantus and ssi
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Arterial Line - [**2146-3-3**] 04:12 PM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2146-03-09 07:04:00 Physician Resident Progress Note
Chief Complaint: Liver Failure
   Hepatorenal Syndrome
   24 Hour Events:
 PARACENTESIS - At [**2146-3-8**] 12:55 PM
   Post procedure the pt developed hypotension with HCT drop from 29 to
   22. She received 2U PRBC, 3 U FFP and 2 U Cryoprecipitate with a repeat
   HCT of 15, INR improved from 2.9 to 2.0. Fibrinogen up from 63 to 162.
   Surgery consultation was obtained, with recommendation for continued
   medical management. She received 4 U PRBC and 2 U Plt with rise in HCT
   for 25. Plt 53. Pt required levophed for BP support, weaned off since
   2100. An additional 2 U PRBC given this am
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Vancomycin - [**2146-3-6**] 11:00 PM
   Erythromycin - [**2146-3-8**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-9**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-9**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 101 (95 - 120) bpm
   BP: 138/69(86) {31/17(21) - 151/73(91)} mmHg
   RR: 22 (19 - 228) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.7 kg (admission): 99.5 kg
   Height: 65 Inch
    CVP: 20 (6 - 325)mmHg
   Bladder pressure: 25 (19 - 25) mmHg
   Total In:
                                                                  4,766 mL
                                                                  1,217 mL
   PO:
   TF:
                                                                    128 mL
   IVF:
                                                                  1,936 mL
                                                                    419 mL
   Blood products:
                                                                  2,413 mL
                                                                    799 mL
   Total out:
                                                                  5,523 mL
                                                                    525 mL
   Urine:
                                                                     43 mL
                                                                     25 mL
   NG:
                                                                    360 mL
   Stool:
   Drains:
                                                                  4,120 mL
   Balance:
                                                                   -757 mL
                                                                    692 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 432 (390 - 437) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: ///20/
   Ve: 7.8 L/min
   Physical Examination
   Gen: intubated, MS improved with response to verbal stimuli
   CVS: +S1/S2, no m/r/g, RRR
   LUNGS: CTAB anteriorly
   ABD: +massive ascites/tense, decreased bowel sounds
   EXT: +2 peripheral edema
   Labs / Radiology
   53 K/uL
   9.5 g/dL
   155 mg/dL
   4.2 mg/dL
   20 mEq/L
   3.5 mEq/L
   62 mg/dL
   105 mEq/L
   143 mEq/L
   25.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2146-3-7**]  12:53 AM
                             [**2146-3-7**]  03:57 AM
                             [**2146-3-7**]  04:55 PM
                             [**2146-3-8**]  03:27 AM
                             [**2146-3-8**]  02:11 PM
                             [**2146-3-8**]  02:52 PM
                             [**2146-3-8**]  03:15 PM
                             [**2146-3-8**]  09:14 PM
                             [**2146-3-9**]  12:10 AM
                             [**2146-3-9**]  04:04 AM
   WBC
   8.2
   11.4
   6.5
   14.7
   15.5
   12.8
   10.6
   Hct
   30.7
   33.0
   29.0
   22.0
   17.9
   15.6
   25.2
   Plt
   47
   61
   61
   40
   108
   125
   44
   44
   53
   Cr
   3.3
   3.7
   3.8
   3.9
   4.2
   Glucose
   176
   193
   170
   150
   155
   Other labs: PT / PTT / INR:20.5/35.2/1.9, ALT / AST:17/24, Alk Phos / T
   Bili:60/24.0, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:223 mg/dL, Lactic Acid:3.5
   mmol/L, Albumin:3.9 g/dL, LDH:185 IU/L, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.3 mg/dL
   Fluid analysis / Other labs: ASCITES ANALYSIS WBC RBC Polys Lymphs
   Monos Plasma Mesothe Macroph
   [**2146-3-8**] 12:40PM    150* [**Numeric Identifier 8021**]* 32* 22* 46*
   Imaging: CXR [**2146-3-8**] FINDINGS: Low lung volumes. The cardiac silhouette
   is enlarged. Worsening
   retrocardiac opacity. Bilateral pleural effusions are unchanged.
   Endotracheal
   tube projects at 4.2 cm above the carina. NG tube and right IJ central
   venous
   line are unchanged. TIPS is again noted.
   Microbiology: [**2146-3-8**] 12:40 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
         PERITONEAL FLUID.
      Fluid Culture in Bottles (Pending):
   [**2146-3-8**] 12:40 pm PERITONEAL FLUID
      GRAM STAIN (Final [**2146-3-8**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
      FUNGAL CULTURE (Preliminary):
   [**2146-3-7**] 8:45 pm BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
      BLOOD/FUNGAL CULTURE (Pending):
      BLOOD/AFB CULTURE (Pending):
   Assessment and Plan
   58 F with history of HCV cirrhosis s/p TIPS, CKD, admit from OSH with
   encephalopathy and hepatorenal syndrome with respiratory failure now
   s/p paracentesis complicated by intraabdominal bleed
   .
   # Intraabdominal Bleed s/p paracentesis
 Pt dropped HCT from 22 to low
   of 15 despite transfusions, HCT now improved to 28 after 8U PRBC. Also
   received 2 bag plts, 2 U cryo and 3 U FFP. Pt weanted off levophed last
   pm. Bladder pressure rose to 25, now down to 20. Transplant surgery
   following, appreciate input.
   -          Trend HCT and coags Q6
   -          Goal HCT 30, INR <2.0, Plt >50, Fibrinogen > 100
   .
   # Respiratory Failure: Patient intubated [**2-28**] encephalopathy.  Off
   sedation.  Patient  MS improved today, responding to verbal stimuli.
   Benzos may still be in her system as well given her renal and liver
   failure.  Will cont to monitor.
   - may attempt to extubate tomorrow if mental status improves
   .
   # Septic Shock
 likely source was SBP. Cultures continue to be
   negative
   -          continue to follow cultures
   -          continue Zosyn for 10 day course, Vanco for 7 day course
   -          MAP>65 (off pressors for 48 hours)
   .
   # DIC:  Most likely [**2-28**] sepsis/liver failure.  Received cryo for
   fibrinogen <100 in setting of active bleed yest but LDH, hapto stable.
   -- [**Hospital1 **] hct, plts, coags and fibrinogen
   -- PPI IV BID
   .
   # Hepatorenal syndrome - likely triggered by 11 L Para on [**2-24**] with
   only 25gm albumin. Patient is currently oliguric.  Renal has been
   following.  She is now off pressors.  Holding daily albumin.  Patient
   was on CVVH currently, plan is to start HD tomorrow.
   -f/u renal recs
   - holding midodrine per liver recs
   .
   # Altered mental status - likely hepatic encephalopathy triggered by
   SBP and hepatorenal syndrome. Restarted lactulose and rifaxamine with
   improved stooling however doses limited by increased NG output
   - continue PO lactulose as tolerated
   -treat SBP, hepatorenal as above
   .
   # HCV cirrhosis - decompensated w/ varices, massive ascites s/p tips,
   encephalopathy. Awaiting transplant.
   -treat complications as above
   - f/u liver recs
   .
   .# DM2
 lantus 32u daily for hyperglycemia, and HISS
   .
   .# Seizure disorder -
   -          cont keppra IV
   .
   .# Depression/Anxiety. - holding psych meds due to delta MS.
   .
   # PPx:  pneumoboots, PPI IV BID, VAP bundle
   .
   # FEN: TF
s as tolerated, currently held [**2-28**] residuals.
   # Access RIJ, HD line
   # Code: Full
   # Dispo: pending improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2146-03-09 08:59:00 Physician Attending Progress Note
Chief Complaint: HRS, SBP
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2146-3-8**] 12:55 PM
   Paracentesis 4L yesterday -> hypotension, Hct drop, likely
   intraperitoneal bleed.
   Total transfusion: 8U PRBC, 3U FFP, 2 cryo, 2 platelets
   Lactate and bladder pressure rose to 5.3 and 25, now down to 2.8 and 20
   Seen by sx, rec medical mgmt, unless bladder pr > 40
   Guiac always +
   NG lavage neg
   TF held due t high residuals
   + gastic content aspirated from lungs
   + stools
   Follows simple commmands intermittently
   Off sedation and off all pressors
   Son updated
                            Patient unable to provide history: Encephalopathy
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Vancomycin - [**2146-3-6**] 11:00 PM
   Erythromycin - [**2146-3-8**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-9**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-9**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 98 (95 - 120) bpm
   BP: 130/62(76) {31/17(21) - 149/73(88)} mmHg
   RR: 21 (19 - 228) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.7 kg (admission): 99.5 kg
   Height: 65 Inch
   CVP: 13 (6 - 325)mmHg
   Bladder pressure: 25 (19 - 25) mmHg
                                Total In:
                                                                  4,766 mL
                                                                  1,637 mL
   PO:
                                TF:
                                                                    128 mL
   IVF:
                                                                  1,936 mL
                                                                    836 mL
   Blood products:
                                                                  2,413 mL
                                                                    801 mL
   Total out:
                                                                  5,523 mL
                                                                    525 mL
   Urine:
                                                                     43 mL
                                                                     25 mL
   NG:
                                                                    360 mL
   Stool:
   Drains:
                                                                  4,120 mL
   Balance:
                                                                   -757 mL
                                                                  1,112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 388 (388 - 437) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.35/40/49/
   Ve: 7.4 L/min
   Physical Examination
   Head, Ears, Nose, Throat: NG tube, ETT
   Cardiovascular: (S1: Normal), (S2: Normal), loud L parasternal murmur
   Peripheral Vascular: All pulses present
   Respiratory / Chest: clear
   Abdominal: Bowel sounds +, +++  Distended, Fluid wave
   Extremities: Right: 4+, Left: 4+
   Skin:  warm, well perfused
   Neurologic: much awake this morning, asnwering questions, moving all
   extremities
   Labs / Radiology
   9.5 g/dL
   53 K/uL
   155 mg/dL
   4.2 mg/dL
   20 mEq/L
   3.5 mEq/L
   62 mg/dL
   105 mEq/L
   143 mEq/L
   25.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2146-3-7**]  12:53 AM
                             [**2146-3-7**]  03:57 AM
                             [**2146-3-7**]  04:55 PM
                             [**2146-3-8**]  03:27 AM
                             [**2146-3-8**]  02:11 PM
                             [**2146-3-8**]  02:52 PM
                             [**2146-3-8**]  03:15 PM
                             [**2146-3-8**]  09:14 PM
                             [**2146-3-9**]  12:10 AM
                             [**2146-3-9**]  04:04 AM
   WBC
   8.2
   11.4
   6.5
   14.7
   15.5
   12.8
   10.6
   Hct
   30.7
   33.0
   29.0
   22.0
   17.9
   15.6
   25.2
   Plt
   47
   61
   61
   40
   108
   125
   44
   44
   53
   Cr
   3.3
   3.7
   3.8
   3.9
   4.2
   Glucose
   176
   193
   170
   150
   155
   Other labs: PT / PTT / INR:20.5/35.2/1.9, ALT / AST:17/24, Alk Phos / T
   Bili:60/24.0, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:223 mg/dL, Lactic Acid:2.8
   mmol/L, Albumin:3.9 g/dL, LDH:185 IU/L, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.3 mg/dL
   Fluid analysis / Other labs: Fibrinogen 223
   Imaging: CXR: layering bilateral effusions
   Microbiology: Perit fluid: 2+ polys, no orgms
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   58 F with history of HCV cirrhosis s/p TIPS, CKD, now with HRS and low
   grade resolving DIC from Klebsiella SBP and bibasilar pneumonia.
   Intermmittent ileus. Sepsis resolved.
   Hypotension, Hct drop yesterday: likely from intraperitoneal bleed s/p
   para...stable now with improving mental status. Monitor bladder
   pressures. Monitor lactate. Cycle Hct, INR.
   Shock: septic, resolved. Completed Vanc. Zosyn x 10 days per HD dose.
   Fungal cxs pend.
   GI: Stooling well. Still has high NGT returns, but moving bowels. On
   reglana dn erythromycin. Off all sedation. Try post pyloric dobhoff
   placement. Otherwise, nutrition consult for PPN/TPN. Ask liver if ok.
   Renal: HD today
   Vent: wean vent once mental status, fluid dtaus and gag improves. Check
   cuff pressure to prevent aspiration.
   Seizure disorder
 on Keppra iv
   Rest per resident note
   ICU Care
   Nutrition:
   TF intermitent
   Glycemic Control:  lantus and ssi
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Arterial Line - [**2146-3-3**] 04:12 PM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2146-03-10 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   HCT stable overnight.  PLT decreased to < 30, so patient was given 1u
   Platelets.
   Patient did not tolerate RSBI trial, became tachypneic to RR 40s.  No
   SBT done.
   HD done yesterday with removal of 1L fluid.
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Erythromycin - [**2146-3-8**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-10**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-10**] 06:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-10**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 89 (83 - 103) bpm
   BP: 129/58(76) {106/48(62) - 140/74(88)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.7 kg (admission): 99.5 kg
   Height: 65 Inch
    CVP: 15 (11 - 305)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  2,607 mL
                                                                    435 mL
   PO:
   TF:
   IVF:
                                                                  1,190 mL
                                                                    134 mL
   Blood products:
                                                                  1,347 mL
                                                                    201 mL
   Total out:
                                                                  1,815 mL
                                                                    430 mL
   Urine:
                                                                     45 mL
                                                                     30 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
                                                                    120 mL
   Balance:
                                                                    792 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 409 (313 - 462) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 6.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   10.2 g/dL
   146 mg/dL
   2.7 mg/dL
   24 mEq/L
   3.0 mEq/L
   46 mg/dL
   104 mEq/L
   145 mEq/L
   26.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2146-3-8**]  02:52 PM
                             [**2146-3-8**]  03:15 PM
                             [**2146-3-8**]  09:14 PM
                             [**2146-3-9**]  12:10 AM
                             [**2146-3-9**]  04:04 AM
                             [**2146-3-9**]  07:54 AM
                             [**2146-3-9**]  12:09 PM
                             [**2146-3-9**]  05:00 PM
                             [**2146-3-10**]  12:29 AM
                             [**2146-3-10**]  04:04 AM
   WBC
   15.5
   12.8
   10.6
   10.1
   10.1
   11.8
   7.8
   8.5
   Hct
   17.9
   15.6
   25.2
   28.8
   29.8
   27.5
   26.3
   26.3
   Plt
   125
   44
   44
   53
   44
   44
   37
   25
   47
   Cr
   3.8
   3.9
   4.2
   2.7
   Glucose
   170
   150
   155
   146
   Other labs: PT / PTT / INR:19.8/33.1/1.8, ALT / AST:17/24, Alk Phos / T
   Bili:60/24.0, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:189 mg/dL, Lactic Acid:2.5
   mmol/L, Albumin:3.9 g/dL, LDH:187 IU/L, Ca++:9.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.8 mg/dL
   MICRO:
   Blood Cultures: NGTD
   Peritoneal Cultures: NGTD
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   58 F with history of HCV cirrhosis s/p TIPS, CKD, admit from OSH with
   encephalopathy and hepatorenal syndrome with respiratory failure now
   s/p paracentesis complicated by intraabdominal bleed
   .
   # Intraabdominal Bleed s/p paracentesis
 Pt dropped HCT from 22 to low
   of 15 despite transfusions, HCT now improved to 28 after 8U PRBC. Also
   received 2 bag plts, 2 U cryo and 3 U FFP. Pt weanted off levophed last
   pm. Bladder pressure rose to 25, now down to 20. Transplant surgery
   following, appreciate input.
   -          Trend HCT and coags Q6
   -          Goal HCT 30, INR <2.0, Plt >50, Fibrinogen > 100
   .
   # Respiratory Failure: Patient intubated [**2-28**] encephalopathy.  Off
   sedation.  Patient  MS improved today, responding to verbal stimuli.
   Benzos may still be in her system as well given her renal and liver
   failure.  Will cont to monitor.
   - may attempt to extubate tomorrow if mental status improves
   .
   # Septic Shock
 likely source was SBP. Cultures continue to be
   negative
   -          continue to follow cultures
   -          continue Zosyn for 10 day course, Vanco for 7 day course
   -          MAP>65 (off pressors for 48 hours)
   .
   # DIC:  Most likely [**2-28**] sepsis/liver failure.  Received cryo for
   fibrinogen <100 in setting of active bleed yest but LDH, hapto stable.
   -- [**Hospital1 **] hct, plts, coags and fibrinogen
   -- PPI IV BID
   .
   # Hepatorenal syndrome - likely triggered by 11 L Para on [**2-24**] with
   only 25gm albumin. Patient is currently oliguric.  Renal has been
   following.  She is now off pressors.  Holding daily albumin.  Patient
   was on CVVH currently, plan is to start HD tomorrow.
   -f/u renal recs
   - holding midodrine per liver recs
   .
   # Altered mental status - likely hepatic encephalopathy triggered by
   SBP and hepatorenal syndrome. Restarted lactulose and rifaxamine with
   improved stooling however doses limited by increased NG output
   - continue PO lactulose as tolerated
   -treat SBP, hepatorenal as above
   .
   # HCV cirrhosis - decompensated w/ varices, massive ascites s/p tips,
   encephalopathy. Awaiting transplant.
   -treat complications as above
   - f/u liver recs
   .
   .# DM2
 lantus 32u daily for hyperglycemia, and HISS
   .
   .# Seizure disorder -
   -          cont keppra IV
   .
   .# Depression/Anxiety. - holding psych meds due to delta MS.
   .
   # PPx:  pneumoboots, PPI IV BID, VAP bundle
   .
   # FEN: TF
s as tolerated, currently held [**2-28**] residuals.
   # Access RIJ, HD line
   # Code: Full
   # Dispo: pending improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-03-10 11:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hct stable, plt 30, transfused, RSBI 89, on [**5-31**]
   HD ysterady removed 1L fluid
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Erythromycin - [**2146-3-8**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-10**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-10**] 06:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-10**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 95 (83 - 103) bpm
   BP: 135/73(87) {106/48(62) - 147/74(87)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.7 kg (admission): 99.5 kg
   Height: 65 Inch
   CVP: 15 (12 - 305)mmHg
   Bladder pressure: 29 (29 - 29) mmHg
   Total In:
                                                                  2,607 mL
                                                                    581 mL
   PO:
   TF:
   IVF:
                                                                  1,190 mL
                                                                    220 mL
   Blood products:
                                                                  1,347 mL
                                                                    201 mL
   Total out:
                                                                  1,815 mL
                                                                    480 mL
   Urine:
                                                                     45 mL
                                                                     80 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
                                                                    120 mL
   Balance:
                                                                    792 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (313 - 462) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 9.5 L/min
   Physical Examination
   Head, Ears, Nose, Throat: NG tube, ETT
   Cardiovascular: (S1: Normal), (S2: Normal), loud L parasternal murmur
   Peripheral Vascular: All pulses present
   Respiratory / Chest: clear
   Abdominal: Bowel sounds +, +++  Distended, Fluid wave
   Extremities: Right: 4+, Left: 4+
   Skin:  warm, well perfused
   Neurologic: much awake this morning, asnwering questions, moving all
   extremities
   Labs / Radiology
   10.2 g/dL
   47 K/uL
   146 mg/dL
   2.7 mg/dL
   24 mEq/L
   3.0 mEq/L
   46 mg/dL
   104 mEq/L
   145 mEq/L
   26.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2146-3-8**]  02:52 PM
                             [**2146-3-8**]  03:15 PM
                             [**2146-3-8**]  09:14 PM
                             [**2146-3-9**]  12:10 AM
                             [**2146-3-9**]  04:04 AM
                             [**2146-3-9**]  07:54 AM
                             [**2146-3-9**]  12:09 PM
                             [**2146-3-9**]  05:00 PM
                             [**2146-3-10**]  12:29 AM
                             [**2146-3-10**]  04:04 AM
   WBC
   15.5
   12.8
   10.6
   10.1
   10.1
   11.8
   7.8
   8.5
   Hct
   17.9
   15.6
   25.2
   28.8
   29.8
   27.5
   26.3
   26.3
   Plt
   125
   44
   44
   53
   44
   44
   37
   25
   47
   Cr
   3.8
   3.9
   4.2
   2.7
   Glucose
   170
   150
   155
   146
   Other labs: PT / PTT / INR:19.8/33.1/1.8, ALT / AST:17/24, Alk Phos / T
   Bili:60/24.0, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:189 mg/dL, Lactic Acid:2.5
   mmol/L, Albumin:3.9 g/dL, LDH:187 IU/L, Ca++:9.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.8 mg/dL
   Microbiology: Fungal blood and ascitis cxs: neg
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   58 F with history of HCV cirrhosis s/p TIPS, CKD, now with HRS and low
   grade resolving DIC from Klebsiella SBP and bibasilar pneumonia.
   Intermmittent ileus. Sepsis resolved.
   Intraabd bleed s/p para: Hct stable, bladder pr 29, transfuse products
   prn, monitor q8hr.
   Shock: septic, resolved. Completed Vanc. Zosyn x 10 days per HD dose.
   Fungal cxs ngtd
   GI: Stooling well but still has high NGT returns. On reglan,
   erythromycin. Try post pyloric dobhoff placement. Otherwise, nutrition
   consult for PPN/TPN. Ask liver if ok.
   Renal: HD per renal
   Vent: try T-piece today, otherwise continue [**5-31**]...holding off on
   further abd taps but it seems to be impairing her resp status...follow
   for now, ? pigtail fir a few days
   Seizure disorder
 on Keppra iv
   Rest per resident note
   ICU Care
   Nutrition:
   TF intermitent
   Glycemic Control:  lantus and ssi
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Arterial Line - [**2146-3-3**] 04:12 PM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2146-03-11 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2146-3-10**] 03:50 PM
   Pigtail drain placed.
   2L drained at the time of placement, then 600cc/3hours were drained (2x
   overnight)
   Received 50g albumin IV x 1 last night, and another dose this morning.
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2146-3-11**] 12:24 AM
   pt pulled out ett and ngt
   Received 4 units platelets, 1 unit pRBC's overnight; with pigtail,
   received 2 units FFP, 1 unit platelets and ddAVP.
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Erythromycin - [**2146-3-8**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-11**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-10**] 05:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-11**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.3
C (95.6
   HR: 87 (79 - 100) bpm
   BP: 122/53(68) {112/45(60) - 154/78(92)} mmHg
   RR: 9 (9 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.7 kg (admission): 99.5 kg
   Height: 65 Inch
    CVP: 16 (14 - 302)mmHg
   Bladder pressure: 29 (29 - 29) mmHg
   Total In:
                                                                  2,644 mL
                                                                    845 mL
   PO:
   TF:
   IVF:
                                                                    560 mL
                                                                    224 mL
   Blood products:
                                                                  1,594 mL
                                                                    621 mL
   Total out:
                                                                  5,100 mL
                                                                    450 mL
   Urine:
                                                                    250 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
                                                                  4,050 mL
                                                                    450 mL
   Balance:
                                                                 -2,456 mL
                                                                    395 mL
   Respiratory support
   O2 Delivery Device: Venti mask , Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 272 (272 - 412) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.41/39/125/24/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   26 K/uL
   10.0 g/dL
   152 mg/dL
   3.9 mg/dL
   24 mEq/L
   3.3 mEq/L
   53 mg/dL
   106 mEq/L
   147 mEq/L
   26.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2146-3-9**]  07:54 AM
                             [**2146-3-9**]  12:09 PM
                             [**2146-3-9**]  05:00 PM
                             [**2146-3-10**]  12:29 AM
                             [**2146-3-10**]  04:04 AM
                             [**2146-3-10**]  12:55 PM
                             [**2146-3-10**]  03:51 PM
                             [**2146-3-10**]  10:05 PM
                             [**2146-3-11**]  01:37 AM
                             [**2146-3-11**]  04:41 AM
   WBC
   10.1
   10.1
   11.8
   7.8
   8.5
   11.2
   6.0
   5.8
   Hct
   28.8
   29.8
   27.5
   26.3
   26.3
   28.9
   27.8
   26.4
   Plt
   44
   44
   37
   25
   47
   45
   34
   38
   26
   Cr
   2.7
   3.9
   TCO2
   26
   Glucose
   146
   152
   Other labs: PT / PTT / INR:19.5/34.0/1.8, ALT / AST:16/21, Alk Phos / T
   Bili:74/28.4, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:155 mg/dL, Lactic Acid:2.7
   mmol/L, Albumin:4.0 g/dL, LDH:173 IU/L, Ca++:9.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.5 mg/dL
   Assessment and Plan
   58 F with history of HCV cirrhosis s/p TIPS, CKD, admit from OSH with
   encephalopathy and hepatorenal syndrome with respiratory failure now
   s/p paracentesis complicated by intraabdominal bleed
   .
   # Intraabdominal Bleed s/p paracentesis
HCT stable overnight, Vitals
   stable.
   - Transplant surgery following, appreciate input.
   - Trend HCT and coags Q6
   - Goal HCT 30, INR <2.0, Plt >50, Fibrinogen > 100
   - Consider repeat paracentesis today if bladder pressure continues to
   rise (29) this am
   .
   # Respiratory Failure: Patient intubated [**2-28**] encephalopathy.  Off
   sedation.  Patient  MS improved today, responding to verbal stimuli.
   - will give T piece trial, if tolerates plan for extubation
   .
   # Septic Shock
 likely source was SBP. Cultures continue to be
   negative
   -          continue to follow cultures
   -          continue Zosyn for 10 day course, Vanco for 7 day course
   now off
   -          MAP>65 (off pressors for 48 hours)
   .
   # DIC:  Most likely [**2-28**] sepsis/liver failure.  Received cryo for
   fibrinogen <100 in setting of active bleed yest but LDH, hapto stable.
   -- [**Hospital1 **] hct, plts, coags and fibrinogen
   -- PPI IV BID
   .
   # Hepatorenal syndrome - likely triggered by 11 L Para on [**2-24**] with
   only 25gm albumin. Patient is currently oliguric.  Renal has been
   following.  She is now off pressors.  Holding daily albumin.  Patient
   was on CVVH currently, plan is to start HD tomorrow.
   -f/u renal recs
   - holding midodrine per liver recs
   .
   # Altered mental status - likely hepatic encephalopathy triggered by
   SBP and hepatorenal syndrome. Restarted lactulose and rifaxamine with
   improved stooling however doses limited by increased NG output
   - continue PO lactulose as tolerated
   -treat SBP, hepatorenal as above
   .
   # HCV cirrhosis - decompensated w/ varices, massive ascites s/p tips,
   encephalopathy. Awaiting transplant.
   -treat complications as above
   - f/u liver recs
   .
   .# DM2
 lantus 32u daily for hyperglycemia, and HISS
   .
   .# Seizure disorder -
   -          cont keppra IV
   .
   .# Depression/Anxiety. - holding psych meds due to delta MS.
   .
   # PPx:  pneumoboots, PPI IV BID, VAP bundle
   .
   # FEN: TF
s as tolerated, currently held [**2-28**] residuals.
   # Access RIJ, HD line
   # Code: Full
   # Dispo: pending improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-03-11 09:40:00 Physician Attending Progress Note
Chief Complaint: HRS, SBP
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2146-3-10**] 03:50 PM
   Pigtail drain placed.
   total drainage overnight apx 5 L
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2146-3-11**] 12:24 AM
   pt pulled out ett and ngt
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Erythromycin - [**2146-3-8**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-11**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-10**] 05:33 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-11**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.2
C (95.4
   HR: 86 (79 - 100) bpm
   BP: 120/60(74) {112/45(60) - 154/78(92)} mmHg
   RR: 27 (6 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.7 kg (admission): 99.5 kg
   Height: 65 Inch
   CVP: 16 (14 - 302)mmHg
   Total In:
                                                                  2,644 mL
                                                                  1,397 mL
   PO:
   TF:
   IVF:
                                                                    560 mL
                                                                    245 mL
   Blood products:
                                                                  1,594 mL
                                                                  1,152 mL
   Total out:
                                                                  5,100 mL
                                                                  1,082 mL
   Urine:
                                                                    250 mL
                                                                     12 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
                                                                  4,050 mL
                                                                  1,070 mL
   Balance:
                                                                 -2,456 mL
                                                                    315 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 272 (272 - 390) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/39/125/24/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Head, Ears, Nose: CVP appx 14, mm dry
   Cardiovascular: (S1: Normal), (S2: Normal), loud L parasternal murmur
   Peripheral Vascular: All pulses present
   Respiratory / Chest: ronchorous
   Abdominal: Bowel sounds +, distention improved, Fluid wave
   Extremities: Right: 4+, Left: 4+
   Skin:  warm, well perfused
   Neurologic: awake, alert
   Labs / Radiology
   10.0 g/dL
   30 K/uL
   152 mg/dL
   3.9 mg/dL
   24 mEq/L
   3.3 mEq/L
   53 mg/dL
   106 mEq/L
   147 mEq/L
   26.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2146-3-9**]  12:09 PM
                             [**2146-3-9**]  05:00 PM
                             [**2146-3-10**]  12:29 AM
                             [**2146-3-10**]  04:04 AM
                             [**2146-3-10**]  12:55 PM
                             [**2146-3-10**]  03:51 PM
                             [**2146-3-10**]  10:05 PM
                             [**2146-3-11**]  01:37 AM
                             [**2146-3-11**]  04:41 AM
                             [**2146-3-11**]  08:30 AM
   WBC
   10.1
   11.8
   7.8
   8.5
   11.2
   6.0
   5.8
   Hct
   29.8
   27.5
   26.3
   26.3
   28.9
   27.8
   26.4
   Plt
   44
   37
   25
   47
   45
   34
   38
   26
   30
   Cr
   2.7
   3.9
   TCO2
   26
   Glucose
   146
   152
   Other labs: PT / PTT / INR:19.5/34.0/1.8, ALT / AST:16/21, Alk Phos / T
   Bili:74/28.4, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:155 mg/dL, Lactic Acid:2.7
   mmol/L, Albumin:4.0 g/dL, LDH:173 IU/L, Ca++:9.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   58 F with history of HCV cirrhosis s/p TIPS, CKD, now with HRS and low
   grade resolving DIC from Klebsiella SBP and bibasilar pneumonia.
   Intermmittent ileus. Sepsis resolved.  Self extubated this am. Stable
   resp wise.
   NGT to be placed after platelet transfusion, since very poor cough, not
   safe to swallow. On promotility [**Doctor Last Name **].
   Abdomen much softer post pigtail placement. D/c this afternoon
   HD today
   Last day of Zosyn for SBP today.
   Seizure disorder
 on Keppra iv
   Rest per resident note
   ICU Care
   Nutrition:
   TF intermitent
   Glycemic Control:  lantus and ssi
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Arterial Line - [**2146-3-3**] 04:12 PM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2146-03-12 07:53:00 Physician Resident Progress Note
Chief Complaint:  Liver Failure
   24 Hour Events:
   HCT stable overnight. Pigtail catheter removed. Pt had NG placed
   yesterday am but pt self-dc
d it last pm. Over course of yesterday
   received 2 PRBC, 2 FFP, 4 Plt
   Mental status overall improved
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsZanaflex (Oral)
   (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-11**] 08:34 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-12**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-12**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.9
   HR: 86 (86 - 104) bpm
   BP: 105/48(62) {104/45(61) - 132/65(78)} mmHg
   RR: 19 (16 - 27) insp/[**Year (4 digits) **]
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.7 kg (admission): 99.5 kg
   Height: 65 Inch
    CVP: 17 (10 - 18)mmHg
   Total In:
                                                                  3,372 mL
                                                                    190 mL
   PO:
   TF:
                                                                    175 mL
                                                                      1 mL
   IVF:
                                                                    600 mL
                                                                    189 mL
   Blood products:
                                                                  2,327 mL
   Total out:
                                                                  5,282 mL
                                                                    663 mL
   Urine:
                                                                     12 mL
                                                                     13 mL
   NG:
   Stool:
                                                                  1,200 mL
                                                                    400 mL
   Drains:
                                                                  2,070 mL
                                                                    250 mL
   Balance:
                                                                 -1,910 mL
                                                                   -473 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Gen: MS improved, answering questions appropriately, c/o thirst
   CVS: +S1/S2, no m/r/g, RRR
   LUNGS: CTAB anteriorly, crackles bases b/l
   ABD: +large ascites, softer than prev exam, decreased bowel sounds
   EXT: 3+ peripheral edema
   Neuro: alert, oriented to place and situation, moving all ext, weak
   cough and gag
   Labs / Radiology
   35 K/uL
   11.2 g/dL
   162 mg/dL
   2.7 mg/dL
   28 mEq/L
   3.1 mEq/L
   34 mg/dL
   104 mEq/L
   146 mEq/L
   29.9 %
   4.8 K/uL
        [image002.jpg]
                             [**2146-3-10**]  04:04 AM
                             [**2146-3-10**]  12:55 PM
                             [**2146-3-10**]  03:51 PM
                             [**2146-3-10**]  10:05 PM
                             [**2146-3-11**]  01:37 AM
                             [**2146-3-11**]  04:41 AM
                             [**2146-3-11**]  08:30 AM
                             [**2146-3-11**]  12:27 PM
                             [**2146-3-11**]  08:04 PM
                             [**2146-3-12**]  04:02 AM
   WBC
   8.5
   11.2
   6.0
   5.8
   4.7
   5.7
   4.8
   Hct
   26.3
   28.9
   27.8
   26.4
   26.4
   29.3
   29.9
   Plt
   47
   45
   34
   38
   26
   30
   45
   32
   35
   Cr
   2.7
   3.9
   2.7
   TCO2
   26
   Glucose
   146
   152
   162
   Other labs: PT / PTT / INR:19.1/33.5/1.8, ALT / AST:16/21, Alk Phos / T
   Bili:74/28.4, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:158 mg/dL, Lactic Acid:2.7
   mmol/L, Albumin:4.0 g/dL, LDH:173 IU/L, Ca++:9.7 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.7 mg/dL
   Imaging: COMPARISON: Chest radiograph of earlier the same date.
   FINDINGS: Interval placement of nasogastric tube terminating in region
   of
   gastroduodenal junction. Other indwelling devices unchanged. Within the
   chest, there has been increase in degree of perihilar haziness, likely
   due to
   fluid overload, accompanied by moderate, partially layering pleural
   effusions
   and adjacent atelectasis.
   Assessment and Plan
   58 F with history of HCV cirrhosis s/p TIPS, CKD, admit from OSH with
   encephalopathy and hepatorenal syndrome with respiratory failure now
   s/p paracentesis complicated by intraabdominal bleed, hemodynamically
   stable
   .
   # Intraabdominal Bleed s/p paracentesis
 HCT stable overnight, Vitals
   stable.
   - Transplant surgery following, appreciate input.
   - Trend HCT and coags Q8
   - Goal HCT 25, INR <2.0, Plt >30, Fibrinogen > 100
   - s/p pig tail catheter and drainage of approx 4L over 24 hrs, pigtail
   now DC
   .
   # Respiratory Failure: intubated secondary to AMS, now resolved, pt
   self-extubated but pt tolerating extubation well
   .
   # Hepatorenal syndrome - likely triggered by 11 L Para on [**2-24**] with
   only 25gm albumin. Patient is currently oliguric.  Renal has been
   following.  She is now off pressors.  Patient was on CVVH currently,
   now transitioned to HD
   -          f/u renal recs
   -          plan for HD tomorrow
   .
   # Septic Shock
 Resolved. likely source was SBP. Cultures continue to
   be negative
   -          continue to follow cultures
   -          completed 7 day course of Vanc and 10 day course of Zosyn
   # DIC:  Most likely [**2-28**] sepsis/liver failure.  Resolved
   -- trend hct, plts, coags and fibrinogen as above
   -- PPI IV BID
   .
   # Altered mental status - likely hepatic encephalopathy triggered by
   SBP and hepatorenal syndrome. Restarted lactulose and rifaxamine with
   improved stooling, MS now significantly improved
   - continue PO lactulose/rifaximin as tolerated
   -treat SBP, hepatorenal as above
   .
   # HCV cirrhosis - decompensated w/ varices, massive ascites s/p tips,
   encephalopathy. Awaiting transplant.
   -treat complications as above
   - f/u liver recs
   .
   .# DM2
 lantus 32u daily for hyperglycemia, and HISS
   .
   .# Seizure disorder -
   -          cont keppra IV
   .# Depression/Anxiety. - holding psych meds due to delta MS.
   .
   # PPx:  pneumoboots, PPI IV BID
   .
   # FEN: TF
s as tolerated yesterday but pulled NGT
 will trial pills
   and re-eval swallow, replace NG if unable to swallow
   # Access RIJ, HD line
   # Code: Full
   # Dispo: pending improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mrs [**Known lastname 1112**] self extubated yesterday  and is
   requesting PO fluids. She is aware that she is in ICU at [**Hospital1 54**] but not
   much else. She is off Abx over past 24 hrs. all cultures have remained
   clean from repetitive belly taps. Hct respodned well to pRBC
   transfusion yesterday
   Exam notable for deep jaundice and mild asterixis. She has dry MM with
   pooling of oral secretions and weak gag.  Tm 97.6 BP 104/32  HR70 RR
   14-18 with sats of 96%  on 4 lpm .[**Last Name (un) 8066**] has oozing wounds from belly
   taps.  Labs notable for WBC 4.9 K, HCT 29.9 , K+ 3.1 , Cr 2.7 ,bili of
   28.4. CXR withlow lung volumes and small effusions.
   Agree with plan to slolwy advance PO's if menatl status allows. We will
   have low threshold for TPN if she cannot eat safely. She will need
   repeat paracentesis in 24-48 hrs and HD in the same time period. Also
   have low threshold for IV Vanco/ Diflucan to cover belly wounds till
   edema has subsided. hoepfully renal function will improve in a few
   days.
   Remainder of plan as outlined above.
   Patient is critically ill but improving. Still needs ICU level care
   today
   Total time: 50 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**], MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2146-3-12**] 12:53 PM ------

2146-03-13 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   NGT placed yesterday with no complication - restarted lactulose.
   HCT, PLT, INR stable overnight
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-11**] 08:34 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-13**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-13**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 93 (87 - 111) bpm
   BP: 114/54(69) {80/44(60) - 145/71(86)} mmHg
   RR: 15 (8 - 34) insp/[**Year (4 digits) **]
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.3 kg (admission): 99.5 kg
   Height: 65 Inch
    CVP: 11 (7 - 24)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                    826 mL
                                                                    563 mL
   PO:
   TF:
                                                                     76 mL
                                                                    138 mL
   IVF:
                                                                    450 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    815 mL
   Urine:
                                                                     25 mL
                                                                     15 mL
   NG:
   Stool:
                                                                    400 mL
                                                                    800 mL
   Drains:
                                                                    250 mL
   Balance:
                                                                    151 mL
                                                                   -252 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   12.4 g/dL
   153 mg/dL
   3.2 mg/dL
   25 mEq/L
   3.5 mEq/L
   43 mg/dL
   105 mEq/L
   146 mEq/L
   34.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2146-3-10**]  10:05 PM
                             [**2146-3-11**]  01:37 AM
                             [**2146-3-11**]  04:41 AM
                             [**2146-3-11**]  08:30 AM
                             [**2146-3-11**]  12:27 PM
                             [**2146-3-11**]  08:04 PM
                             [**2146-3-12**]  04:02 AM
                             [**2146-3-12**]  02:22 PM
                             [**2146-3-12**]  10:01 PM
                             [**2146-3-13**]  04:05 AM
   WBC
   6.0
   5.8
   4.7
   5.7
   4.8
   6.7
   8.0
   8.7
   Hct
   27.8
   26.4
   26.4
   29.3
   29.9
   34.7
   35.3
   34.5
   Plt
   34
   38
   26
   30
   45
   32
   35
   34
   40
   47
   Cr
   3.9
   2.7
   3.2
   Glucose
   152
   162
   153
   Other labs: PT / PTT / INR:21.4/34.9/2.0, ALT / AST:16/21, Alk Phos / T
   Bili:74/28.1, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:127 mg/dL, Lactic Acid:2.7
   mmol/L, Albumin:4.0 g/dL, LDH:173 IU/L, Ca++:10.0 mg/dL, Mg++:2.0
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   58 F with history of HCV cirrhosis s/p TIPS, CKD, admit from OSH with
   encephalopathy and hepatorenal syndrome with respiratory failure now
   s/p paracentesis complicated by intraabdominal bleed, hemodynamically
   stable
   .
   # Intraabdominal Bleed s/p paracentesis
 HCT stable overnight, Vitals
   stable.
   - Transplant surgery following, appreciate input.
   - Trend HCT and coags Q8
   - Goal HCT 25, INR <2.0, Plt >30, Fibrinogen > 100
   - s/p pig tail catheter and drainage of approx 4L over 24 hrs, pigtail
   now DC
   .
   # Respiratory Failure: intubated secondary to AMS, now resolved, pt
   self-extubated but pt tolerating extubation well
   .
   # Hepatorenal syndrome - likely triggered by 11 L Para on [**2-24**] with
   only 25gm albumin. Patient is currently oliguric.  Renal has been
   following.  She is now off pressors.  Patient was on CVVH currently,
   now transitioned to HD
   -          f/u renal recs
   -          plan for HD tomorrow
   .
   # Septic Shock
 Resolved. likely source was SBP. Cultures continue to
   be negative
   -          continue to follow cultures
   -          completed 7 day course of Vanc and 10 day course of Zosyn
   # DIC:  Most likely [**2-28**] sepsis/liver failure.  Resolved
   -- trend hct, plts, coags and fibrinogen as above
   -- PPI IV BID
   .
   # Altered mental status - likely hepatic encephalopathy triggered by
   SBP and hepatorenal syndrome. Restarted lactulose and rifaxamine with
   improved stooling, MS now significantly improved
   - continue PO lactulose/rifaximin as tolerated
   -treat SBP, hepatorenal as above
   .
   # HCV cirrhosis - decompensated w/ varices, massive ascites s/p tips,
   encephalopathy. Awaiting transplant.
   -treat complications as above
   - f/u liver recs
   .
   .# DM2
 lantus 32u daily for hyperglycemia, and HISS
   .
   .# Seizure disorder -
   -          cont keppra IV
   .# Depression/Anxiety. - holding psych meds due to delta MS.
   .
   # PPx:  pneumoboots, PPI IV BID
   .
   # FEN: TF
s as tolerated yesterday but pulled NGT
 will trial pills
   and re-eval swallow, replace NG if unable to swallow
   # Access RIJ, HD line
   # Code: Full
   # Dispo: pending improvement.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2146-3-12**] 04:30 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with Dr
   [**Last Name (STitle) 4239**]
s note above, including the assessment and plan. I would
   emphasize and add the following points: Mrs [**Known lastname 1112**] self extubated 48
   hrs ago and has remained safe on [**3-1**] lpm O2  and is requesting PO
   fluids. She is aware that she is in ICU at [**Hospital1 54**] but not much else. She
   is off Abx over past 24 hrs. all cultures have remained clean from
   repetitive belly taps. No need for further pRBC
   Exam notable for deep jaundice and mild asterixis. She has dry MM with
   pooling of oral secretions and weak gag.  Tm 97.6 BP 104/32  HR70 RR
   14-18 with sats of 96%  on 4 lpm .she has oozing wounds from belly
   taps.  Labs notable for WBC 8 K, HCT 34 , K+ 3.5 , Cr 3.2 ,bili of
   28.4. CXR with low lung volumes and small effusions.
   Agree with tube feeds today as she is still not safe from a swallowing
   perspective. We will have low threshold for TPN if tube feeds are not
   tolerated. She may need repeat paracentesis in 24-48 hrs and HD in the
   same time period. We will continue IV vanco for belly wounds and
   indwelling lines as potential septic sources. hopefully renal function
   will improve in a few days.
   Remainder of plan as outlined above.
   Patient is critically ill but improving. Still needs ICU level care
   today
   Total time: 50 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**], MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]

2146-03-14 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   patient spiked to 101 overnight. Sampled ascites (from drain, not new
   puncture), blood, urine. CXR this AM. Started vanco yesterday before
   spike, out of concern of open para sites; meropenem started overnight
   for empiric coverage of aspiration pna vs. GI source.
   Growing budding yeast from ascites - but will likely need new sterile
   paracentesis to be sure that that's not a contaminant.
   NGT in place, tolerate TF
s until the evening yesterday, then had high
   residuals
 BLOOD CULTURED - At [**2146-3-13**] 08:23 PM
   RIJ CVL
 URINE CULTURE - At [**2146-3-13**] 09:00 PM
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-11**] 08:34 PM
   Vancomycin - [**2146-3-13**] 12:15 PM
   Meropenem - [**2146-3-13**] 10:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-14**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-14**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.2
   HR: 88 (88 - 116) bpm
   BP: 134/57(75) {116/49(65) - 157/69(88)} mmHg
   RR: 13 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 99.5 kg
   Height: 65 Inch
    CVP: 12 (5 - 20)mmHg
   Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  2,100 mL
                                                                    831 mL
   PO:
   TF:
                                                                    470 mL
                                                                    230 mL
   IVF:
                                                                    750 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  1,972 mL
                                                                    671 mL
   Urine:
                                                                     43 mL
                                                                     21 mL
   NG:
                                                                    220 mL
   Stool:
                                                                  1,500 mL
                                                                    650 mL
   Drains:
                                                                    209 mL
   Balance:
                                                                    128 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Gen: MS improved, response to verbal stimuli, purposeful movements
   CVS: +S1/S2, no m/r/g, RRR
   LUNGS: CTAB anteriorly
   ABD: +large ascites, decreased bowel sounds
   EXT: +2 peripheral edema
   Skin: + jaundince, continued leakage from previous paracentesis sites
   Labs / Radiology
   44 K/uL
   11.7 g/dL
   150 mg/dL
   3.5 mg/dL
   26 mEq/L
   3.1 mEq/L
   52 mg/dL
   108 mEq/L
   149 mEq/L
   33.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2146-3-11**]  04:41 AM
                             [**2146-3-11**]  08:30 AM
                             [**2146-3-11**]  12:27 PM
                             [**2146-3-11**]  08:04 PM
                             [**2146-3-12**]  04:02 AM
                             [**2146-3-12**]  02:22 PM
                             [**2146-3-12**]  10:01 PM
                             [**2146-3-13**]  04:05 AM
                             [**2146-3-13**]  10:25 PM
                             [**2146-3-14**]  04:11 AM
   WBC
   5.8
   4.7
   5.7
   4.8
   6.7
   8.0
   8.7
   8.1
   7.7
   Hct
   26.4
   26.4
   29.3
   29.9
   34.7
   35.3
   34.5
   33.5
   33.2
   Plt
   26
   30
   45
   32
   35
   34
   40
   47
   51
   44
   Cr
   3.9
   2.7
   3.2
   3.5
   Glucose
   152
   162
   153
   150
   Other labs: PT / PTT / INR:22.7/34.1/2.2, ALT / AST:18/39, Alk Phos / T
   Bili:98/38.7, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:136 mg/dL, Lactic Acid:2.7
   mmol/L, Albumin:3.8 g/dL, LDH:235 IU/L, Ca++:9.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.0 mg/dL
   MICRO:
   [1][**2146-3-13**]
   PERITONEAL FLUID
   GRAM STAIN-FINAL; FLUID CULTURE-PRELIMINARY; ANAEROBIC
   CULTURE-PRELIMINARY
   [2][**2146-3-13**]
   URINE
   URINE CULTURE-PENDING
   [3][**2146-3-13**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [4][**2146-3-13**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [5][**2146-3-8**]
   BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
   BLOOD/FUNGAL CULTURE-PRELIMINARY; BLOOD/AFB CULTURE-PRELIMINARY
   [6][**2146-3-8**]
   FLUID RECEIVED IN BLOOD CULTURE BOTTLES
   Fluid Culture in Bottles-PRELIMINARY
   [7][**2146-3-8**]
   PERITONEAL FLUID
   GRAM STAIN-FINAL; FLUID CULTURE-FINAL; ANAEROBIC CULTURE-PRELIMINARY;
   FUNGAL CULTURE-PRELIMINARY
   [8][**2146-3-7**]
   BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
   BLOOD/FUNGAL CULTURE-PRELIMINARY; BLOOD/AFB CULTURE-PRELIMINARY
   [9][**2146-3-6**]
   FLUID RECEIVED IN BLOOD CULTURE BOTTLES
   Fluid Culture in Bottles-FINAL
   [10][**2146-3-4**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST}
   [11][**2146-3-4**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   [12][**2146-3-3**]
   PERITONEAL FLUID
   GRAM STAIN-FINAL; FLUID CULTURE-FINAL; ANAEROBIC CULTURE-FINAL
   [13][**2146-3-3**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [14][**2146-3-3**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [15][**2146-3-3**]
   URINE
   URINE CULTURE-FINAL {YEAST, YEAST}
   [16][**2146-3-2**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   Assessment and Plan
   58 F with history of HCV cirrhosis s/p TIPS, CKD, admit from OSH with
   encephalopathy and hepatorenal syndrome with respiratory failure now
   s/p paracentesis complicated by intraabdominal bleed, hemodynamically
   stable
   .
   # Fevers
 pt spiked to [**Age over 90 144**] yest and was started on
   Vancomycin/meropenem. Concern for infection for sources including line
   infection with HD cath and RIJ, open wound from previous para sites,
   aspiration PNA
 no clear new infiltrate on CXR and recurrent bacterial
   peritonitis. Pt also with yeast on sputum, urine cultures
   -          Continue vanc/[**Last Name (un) 430**] for now
   -          Will add caspofungin per liver recs
   -          Obtain cultures from all lines
   -          Repeat diagnostic paracentesis
   -          ID consult for antibiotic recommendations
   .
   # Intraabdominal Bleed s/p paracentesis
 HCT stable overnight, Vitals
   stable.
   - Transplant surgery following, appreciate input.
   - Trend HCT and coags Q8
   - Goal HCT 25, INR <2.0, Plt >30, Fibrinogen > 100
   - needs repeat para today, will perform US guided procedure with FFP
   and plts prior
   .
   # Respiratory Failure: intubated secondary to AMS, now resolved, pt
   self-extubated but pt tolerating extubation well
   .
   # Hepatorenal syndrome - likely triggered by 11 L Para on [**2-24**] with
   only 25gm albumin. Patient is currently oliguric.  Renal has been
   following.  She is now off pressors.  Patient was on CVVH currently,
   now transitioned to HD
   -          f/u renal recs
   -          plan for HD today
   .
   # Septic Shock
 Resolved. likely source was SBP. Cultures continue to
   be negative
   -          continue to follow cultures
   -          completed 7 day course of Vanc and 10 day course of Zosyn ,
   now further fever workup as above
   # Altered mental status - likely hepatic encephalopathy triggered by
   SBP and hepatorenal syndrome. Restarted lactulose and rifaxamine with
   improved stooling, MS now significantly improved
   - continue PO lactulose/rifaximin as tolerated
   -treat SBP, hepatorenal as above
   .
   # DIC:  Most likely [**2-28**] sepsis/liver failure.  Resolved
   .
   # HCV cirrhosis - decompensated w/ varices, massive ascites s/p tips,
   encephalopathy. Awaiting transplant.
   -treat complications as above
   - f/u liver recs
   .
   .# DM2
 lantus 32u daily for hyperglycemia, and HISS
   .
   .# Seizure disorder -
   -          cont keppra IV
   .# Depression/Anxiety. - holding psych meds due to delta MS.
   .
   # PPx:  pneumoboots, PPI IV BID
   .
   # FEN: continue TF with S&S eval tomorrow
   # Access RIJ, HD line
   # Code: Full
   # Dispo: pending improvement.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2146-3-14**] 06:19 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mrs [**Known lastname 1112**] in a little more lethargic todayt
   [**Hospital1 54**].vanco started yesterday given open abd wounds and she now has
   yeast in ascitic fluid from that site. caspogungin also started today
   pending repeat paracentesis.
   Exam notable for deep jaundice and mild asterixis. She has dry MM with
   pooling of oral secretions and weak gag.  Tm 101.3 104/32  HR70 RR
   14-18 with sats of 96%  on 4 lpm .she has oozing wounds from belly
   taps.  she is oriented to name and place today.
   Labs notable for WBC 7.7K, hct of 33.7, K of 3.1 and creat of 3.5, BUN
   is 52 and Na of 149. CXR shows small lung volumes. She is 900 cc
   Positive overnight.
   While she has reamined extubated, she remains a high aspiration risk.
   She has concerns of ongoing sepsis ( fungal, SBP, apsiration as
   sources). I concur with plans to to tap belly with USG guidance by IR
   and start broad Abx including caspofungin. She will need HD today but
   will not take fluid off. Also free water to be repleted today. Tube
   feeds will be started slowly later today if residuals not high. TPN
   only to be started if fungal cultures are negative. ID input today
   given complexities and transplant situation.
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**], MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2146-3-14**] 12:06 PM ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22,640,400,50,50,1);

2146-03-15 07:32:00 Physician Resident Progress Note
Chief Complaint: Liver Failure
   24 Hour Events:
 BLOOD CULTURED - At [**2146-3-14**] 11:30 AM
   peripheral stick.
 STOOL CULTURE - At [**2146-3-14**] 11:30 AM
 ULTRASOUND - At [**2146-3-14**] 02:00 PM
   Off unit to US for US guided paracentesis.  Ascites fluid sent for
   cx/labs.
 BLOOD CULTURED - At [**2146-3-14**] 03:30 PM
   including fungal and x2bottles. Drawn from HD line.
   The patient underwent US guided paracentesis yest with 3L taken off
   Received HD last pm
   HCT stable
   Started on caspofungin/vanc/meropenem for fever spike
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Caspofungin - [**2146-3-14**] 07:30 PM
   Vancomycin - [**2146-3-14**] 09:00 PM
   Meropenem - [**2146-3-15**] 12:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-15**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-15**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 94 (80 - 102) bpm
   BP: 132/55(74) {102/47(60) - 142/73(90)} mmHg
   RR: 19 (13 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 99.5 kg
   Height: 65 Inch
    CVP: 25 (10 - 25)mmHg
   Total In:
                                                                  3,544 mL
                                                                    323 mL
   PO:
   TF:
                                                                    360 mL
                                                                     58 mL
   IVF:
                                                                    948 mL
                                                                    185 mL
   Blood products:
                                                                  1,206 mL
   Total out:
                                                                  4,656 mL
                                                                     10 mL
   Urine:
                                                                     56 mL
                                                                     10 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    650 mL
   Drains:
                                                                  3,000 mL
   Balance:
                                                                 -1,112 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Gen: MS improved, response to verbal stimuli, purposeful movements
   CVS: +S1/S2, III/VI holosystolic murmur best along left sternal border
   LUNGS: CTAB anteriorly
   ABD: +large ascites, NT
   EXT: +2 peripheral edema
   Skin: + jaundince, continued leakage from previous paracentesis sites
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   44 K/uL
   11.0 g/dL
   162 mg/dL
   2.7 mg/dL
   28 mEq/L
   3.2 mEq/L
   32 mg/dL
   107 mEq/L
   150 mEq/L
   30.8 %
   5.4 K/uL
        [image002.jpg]
                             [**2146-3-11**]  08:04 PM
                             [**2146-3-12**]  04:02 AM
                             [**2146-3-12**]  02:22 PM
                             [**2146-3-12**]  10:01 PM
                             [**2146-3-13**]  04:05 AM
                             [**2146-3-13**]  10:25 PM
                             [**2146-3-14**]  04:11 AM
                             [**2146-3-14**]  12:37 PM
                             [**2146-3-14**]  04:36 PM
                             [**2146-3-15**]  01:25 AM
   WBC
   5.7
   4.8
   6.7
   8.0
   8.7
   8.1
   7.7
   5.4
   Hct
   29.3
   29.9
   34.7
   35.3
   34.5
   33.5
   33.2
   29.3
   30.8
   Plt
   32
   35
   34
   40
   47
   51
   44
   51
   44
   Cr
   2.7
   3.2
   3.5
   2.7
   Glucose
   162
   153
   150
   162
   Other labs: PT / PTT / INR:20.0/37.4/1.9, ALT / AST:21/39, Alk Phos / T
   Bili:94/38.3, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:161 mg/dL, Lactic Acid:2.7
   mmol/L, Albumin:4.3 g/dL, LDH:223 IU/L, Ca++:10.0 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Imaging: FINDINGS: The NG tube, right IJ line, and tips are unchanged.
   There is
   cardiomegaly and bilateral pleural effusions, bilateral lower lobe
   volume
   loss. There is pulmonary vascular redistribution and perihilar haze
   suggesting CHF. An underlying infectious infiltrate cannot be
   excluded.
   Compared to the prior study the pulmonary appearance is slightly worse
   Microbiology:
   [1][**2146-3-14**]
   BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
   BLOOD/FUNGAL CULTURE-PENDING; BLOOD/AFB CULTURE-PENDING
   INPATIENT
   [2][**2146-3-14**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2146-3-14**]
   PERITONEAL FLUID
   GRAM STAIN-FINAL; FLUID CULTURE-PRELIMINARY; ANAEROBIC
   CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY; POTASSIUM HYDROXIDE
   PREPARATION-FINAL
   INPATIENT
   [4][**2146-3-14**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [5][**2146-3-14**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2146-3-13**]
   PERITONEAL FLUID
   GRAM STAIN-FINAL; FLUID CULTURE-PRELIMINARY {YEAST}; ANAEROBIC
   CULTURE-PRELIMINARY
   INPATIENT
   [7][**2146-3-13**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [8][**2146-3-13**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [9][**2146-3-13**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan
   58 F with history of HCV cirrhosis s/p TIPS, CKD, admit from OSH with
   encephalopathy and hepatorenal syndrome with respiratory failure now
   s/p paracentesis complicated by intraabdominal bleed, hemodynamically
   stable
   .
   # Fevers
 pt spiked to [**Age over 90 144**] yest and was started on
   Vancomycin/meropenem. Concern for infection for sources including line
   infection with HD cath and RIJ, open wound from previous para sites,
   aspiration PNA
 no clear new infiltrate on CXR and recurrent bacterial
   peritonitis. Pt also with yeast on sputum, urine cultures.
   -          discontinue vanc/[**Last Name (un) 430**] given no clear source
   -          Will d/c caspofungin per ID recs
   -          Obtain cultures from all lines
   -          appreciate ID recommendations
   .
   # Intraabdominal Bleed s/p paracentesis
 HCT stable, Vitals stable.
   - Transplant surgery following, appreciate input.
   - Trend HCT and coags
   - Goal HCT 25, INR <2.0, Plt >30, Fibrinogen > 100
   - transfuse plt prior to procedures
   .
   # Respiratory Failure: intubated secondary to AMS, now resolved, pt
   self-extubated but pt tolerating extubation well
   .
   # Hepatorenal syndrome - likely triggered by 11 L Para on [**2-24**] with
   only 25gm albumin. Patient is currently oliguric.  Renal has been
   following.  She is now off pressors.  Patient was on CVVH, now
   transitioned to HD
   -          f/u renal recs
   .
   # Septic Shock
 Resolved. likely source was SBP. Cultures continue to
   be negative
   -          continue to follow cultures
   -          completed 7 day course of Vanc and 10 day course of Zosyn ,
   now further fever workup as above
   # Altered mental status - likely hepatic encephalopathy triggered by
   SBP and hepatorenal syndrome. Restarted lactulose and rifaxamine with
   improved stooling, MS now significantly improved
   - continue PO lactulose/rifaximin as tolerated
   -treat SBP, hepatorenal as above
   .
   # DIC:  Most likely [**2-28**] sepsis/liver failure.  Resolved
   .
   # HCV cirrhosis - decompensated w/ varices, massive ascites s/p tips,
   encephalopathy. Awaiting transplant.
   -treat complications as above
   - f/u liver recs
   .
   .# DM2
 lantus 32u daily for hyperglycemia, and HISS
   .
   .# Seizure disorder -
   -         switched back to home  tegretol today (initially was placed
   on keppra but now she has NGT)
   .# Depression/Anxiety. - holding psych meds due to delta MS.
   .
   # PPx:  pneumoboots, PPI IV BID
   .
   # FEN: continue TF, failed speech and swallow
   # Access RIJ, HD line
   # Code: Full
   # Dispo:  call out to liver today.
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);

2146-03-15 12:00:00 Physician Attending Progress Note
Chief Complaint: HCV, HRS
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2146-3-14**] 11:30 AM
   peripheral stick.
 STOOL CULTURE - At [**2146-3-14**] 11:30 AM
 ULTRASOUND - At [**2146-3-14**] 02:00 PM
   Off unit to US for US guided paracentesis.  Ascites fluid sent for
   cx/labs.
 BLOOD CULTURED - At [**2146-3-14**] 03:30 PM
   including fungal and x2bottles. Drawn from HD line.
   Allergies:
   Zanaflex (Oral) (Tizanidine Hcl)
   hallucinations;
   Last dose of Antibiotics:
   Caspofungin - [**2146-3-14**] 07:30 PM
   Vancomycin - [**2146-3-14**] 09:00 PM
   Meropenem - [**2146-3-15**] 12:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-3-15**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-15**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 88 (83 - 102) bpm
   BP: 111/34(53) {102/34(53) - 142/73(90)} mmHg
   RR: 14 (13 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 99.5 kg
   Height: 65 Inch
   CVP: 13 (10 - 25)mmHg
   Total In:
                                                                  3,544 mL
                                                                  1,555 mL
   PO:
   TF:
                                                                    360 mL
                                                                    186 mL
   IVF:
                                                                    948 mL
                                                                  1,159 mL
   Blood products:
                                                                  1,206 mL
   Total out:
                                                                  4,656 mL
                                                                     10 mL
   Urine:
                                                                     56 mL
                                                                     10 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    650 mL
   Drains:
                                                                  3,000 mL
   Balance:
                                                                 -1,112 mL
                                                                  1,545 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   44 K/uL
   162 mg/dL
   2.7 mg/dL
   28 mEq/L
   3.2 mEq/L
   32 mg/dL
   107 mEq/L
   150 mEq/L
   30.8 %
   5.4 K/uL
        [image002.jpg]
                             [**2146-3-11**]  08:04 PM
                             [**2146-3-12**]  04:02 AM
                             [**2146-3-12**]  02:22 PM
                             [**2146-3-12**]  10:01 PM
                             [**2146-3-13**]  04:05 AM
                             [**2146-3-13**]  10:25 PM
                             [**2146-3-14**]  04:11 AM
                             [**2146-3-14**]  12:37 PM
                             [**2146-3-14**]  04:36 PM
                             [**2146-3-15**]  01:25 AM
   WBC
   5.7
   4.8
   6.7
   8.0
   8.7
   8.1
   7.7
   5.4
   Hct
   29.3
   29.9
   34.7
   35.3
   34.5
   33.5
   33.2
   29.3
   30.8
   Plt
   32
   35
   34
   40
   47
   51
   44
   51
   44
   Cr
   2.7
   3.2
   3.5
   2.7
   Glucose
   162
   153
   150
   162
   Other labs: PT / PTT / INR:20.0/37.4/1.9, ALT / AST:21/39, Alk Phos / T
   Bili:94/38.3, Differential-Neuts:87.4 %, Lymph:6.7 %, Mono:4.1 %,
   Eos:1.7 %, D-dimer:[**Numeric Identifier 7924**] ng/mL, Fibrinogen:161 mg/dL, Lactic Acid:2.7
   mmol/L, Albumin:4.3 g/dL, LDH:223 IU/L, Ca++:10.0 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Microbiology: fungal cxs pend
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   58 y/o F with HCV cirrhosis, HRS, s/p TIPS, DM, pancytopenia, resolved
   DIC from Kelbsiella SBP, with yeast in sputum and urine
   ID: Got caspofungin x 1, Vanc and [**Last Name (un) **] for fever 48 hrs back, d/c all
   per ID today. Watch pan cxs. Clinically stable.
   Hypernatremia: continue free water boluses, added D5 today. Check free
   water deficit.
   HCV cirrhosis with ascitis: WBC own to 55 in ascitis yesterday.
   Rifaximin and lactulose on board. Stooling well.
   GI: Reglan and erythromycin for high residuals
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2146-3-14**] 04:00 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2146-3-3**] 10:57 AM
   Dialysis Catheter - [**2146-3-5**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if ok with liver team
   Total time spent: